2112-11-11 09:43:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2112-11-10**] 10:04 PM
   -Tidal volume titrated down overnight.
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Morphine
   Unknown;
   Sulfa (Sulfonamide Antibiotics)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Infusions:
   Fentanyl - 100 mcg/hour
   Midazolam (Versed) - 4 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2112-11-11**] 07:52 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Flowsheet Data as of  [**2112-11-11**] 09:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.4
C (97.6
   HR: 76 (76 - 90) bpm
   BP: 94/52(62) {94/52(62) - 130/79(86)} mmHg
   RR: 14 (14 - 15) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                     46 mL
                                                                    274 mL
   PO:
             TF:
   IVF:
                                                                     46 mL
                                                                    274 mL
   Blood products:
   Total out:
                                                                     45 mL
                                                                    630 mL
   Urine:
                                                                     45 mL
                                                                    630 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      1 mL
                                                                   -356 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 500) mL
   Vt (Spontaneous): 166 (166 - 166) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 60%
   RSBI: 175
   PIP: 32 cmH2O
   Plateau: 22 cmH2O
   Compliance: 23.5 cmH2O/mL
   SpO2: 97%
   ABG: 7.45/42/113/27/5
   Ve: 5 L/min
   PaO2 / FiO2: 188
   Physical Examination
   Head, Ears, Nose, Throat: Significant venous engorgement in face and
   neck
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.0 g/dL
   315 K/uL
   101 mg/dL
   0.5 mg/dL
   27 mEq/L
   4.1 mEq/L
   14 mg/dL
   105 mEq/L
   139 mEq/L
   29.4 %
   10.5 K/uL
        [image002.jpg]
                             [**2112-11-11**]  12:09 AM
                             [**2112-11-11**]  12:17 AM
                             [**2112-11-11**]  04:05 AM
   WBC
   10.5
   Hct
   29.4
   Plt
   315
   Cr
   0.5
   0.5
   TCO2
   30
   Glucose
   94
   96
   101
   Other labs: Lactic Acid:1.3 mmol/L, Ca++:9.5 mg/dL, Mg++:2.5 mg/dL,
   PO4:2.9 mg/dL
   Imaging: CXR-Tenting of right hemidiaphragm noted with RUL collapse and
   significant loss of volume on the right side.  ETT in good position
   Assessment and Plan
   55 yo female admitted initially with evidence of SVC syndrome and was
   intubated for bronchoscopy for tissue diagnosis who had SCCA lung
   identified on bronchoscopy.  She has retained relatively high airway
   pressures and was unable to be extubated successfully.  Biopsy was
   obtained through rigid bronch via thoracic surgery.   Given the SCCA
   complicated by SVC syndrome patient now transfer to [**Hospital1 19**] for further
   care and treatment planning.
   1)Respiratory Failure-Patient with background of chronic pain and quite
   elevated levels of sedation have been required.
   -Will maintain A/C support
   -Will maintain relative elevation of PEEP to work to preserve
   oxygenation but not to the extent that we will re-contribute to
   overdistention which was seen overnight with higher tidal volumes
   -Vt at 400 with Pplat=22 appears quite favorable
   -Do suspect possible intrapulmonary shunt as we have some significant
   and persistent hypoxemia as well
   -Will remain intubated for now
   2)Squamous Cell Carcinoma-
   -Rad-Onc consultation-will provide outside images
   -Oncology Consultation
   -Will have to update family in light of evaluation
   -IP consultation for bronch to evaluate airways
   -Will obtain path from [**Hospital3 1959**] and report to be faxed now
   3)SVC Syndrome-
   -Will continue on steroids as dosed and suggested
   ICU Care
   Nutrition: Tube Feeds
   Glycemic Control:
   Lines:
   20 Gauge - [**2112-11-10**] 10:11 PM
   22 Gauge - [**2112-11-10**] 10:12 PM
   18 Gauge - [**2112-11-10**] 10:28 PM
   Prophylaxis:
   DVT: SQ Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45

2112-11-12 08:30:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BRONCHOSCOPY - At [**2112-11-11**] 11:45 AM
 RADIATION THERAPY - At [**2112-11-11**] 05:00 PM
   -had rad/onc treatent
   -IP bronch showed large tumor
   -seen by heme/onc
   -family meeting at 330pm
   Allergies:
   Morphine
   Unknown;
   Sulfa (Sulfonamide Antibiotics)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Infusions:
   Fentanyl - 125 mcg/hour
   Midazolam (Versed) - 5 mg/hour
   Other ICU medications:
   Fentanyl - [**2112-11-11**] 11:45 AM
   Famotidine (Pepcid) - [**2112-11-11**] 07:20 PM
   Midazolam (Versed) - [**2112-11-12**] 07:00 AM
   Heparin Sodium (Prophylaxis) - [**2112-11-12**] 07:48 AM
   Other medications:
   Bisacodyl 2. Chlorhexidine Gluconate 0.12% Oral Rinse 3. Dextrose 50%
   4. Docusate Sodium (Liquid)
   5. Famotidine 6. Fentanyl Citrate 7. Glucagon 8. Heparin 9. 10. Insulin
   11. MethylPREDNISolone Sodium Succ
   12. Midazolam 13. Nicotine Patch 14. Senna
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2112-11-12**] 08:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37.2
C (98.9
   HR: 101 (61 - 117) bpm
   BP: 127/70(84) {87/51(60) - 155/75(94)} mmHg
   RR: 17 (13 - 20) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                    710 mL
                                                                    229 mL
   PO:
             30 mL
   TF:
   IVF:
                                                                    710 mL
                                                                    199 mL
   Blood products:
   Total out:
                                                                  1,460 mL
                                                                    285 mL
   Urine:
                                                                  1,460 mL
                                                                    285 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -750 mL
                                                                    -56 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 60%
   RSBI Deferred: FiO2 > 60%
   PIP: 40 cmH2O
   Plateau: 24 cmH2O
   Compliance: 22 cmH2O/mL
   SpO2: 94%
   ABG: ///28/
   Ve: 6.2 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   274 K/uL
   9.8 g/dL
   100 mg/dL
   0.5 mg/dL
   28 mEq/L
   4.4 mEq/L
   24 mg/dL
   104 mEq/L
   140 mEq/L
   29.8 %
   12.1 K/uL
        [image002.jpg]
                             [**2112-11-11**]  12:09 AM
                             [**2112-11-11**]  12:17 AM
                             [**2112-11-11**]  04:05 AM
                             [**2112-11-12**]  02:57 AM
   WBC
   10.5
   12.1
   Hct
   29.4
   29.8
   Plt
   315
   274
   Cr
   0.5
   0.5
   0.5
   TCO2
   30
   Glucose
   94
   96
   101
   100
   Other labs: Lactic Acid:1.3 mmol/L, Ca++:9.9 mg/dL, Mg++:2.1 mg/dL,
   PO4:3.9 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   55 yo female with new diagnosis of non-small cell lung carcinoma
   causing SVC syndrome and respiratory distress, transferred for further
   evauluation.
   .
   #.  Respiratory Failure:  The patient has a high a-A gradient (262.5)
   while on FiO2 of 60%.  Likely this is secondary to shunt physiology,
   perfusion of collapsed lung of RUL and RML as well as compressive
   atelectasis in RLL.  This is likely a fixed defect and will not improve
   with recruitment trials until cause of collapse is addressed (see
   below).  Will consider repeat bronchoscopy in the AM to address other
   possible causes of collapse including mucous plugging.  Also, the
   patient may be a candidate for endobronchial stenting as a bridge to
   definitive cancer therapy.  In the meantime, will attempt to maintain
   adequate oxygenation.  Her PIP and Plateau pressures are also elevated
   on her current ventilator settings.  Will attempt to decreased tidal
   volumes to improve pressures.  Will check ABG to assess in a few
   hours.
   - CXR in AM
   - Consider bronch in AM
   - Consider IP consult for stenting if bronch shows signs of proximal
   airway collapse.
   - Continue fentanyl/versed for sedation/pain control
   .
   #.  Non-Small Cell Lung Cancer:  New diagnosis in the past two days.
   Will consult Onc and Rad/Onc in the AM for more definitive therapy
   options.  Likely the patient will require both radiation and
   chemotherapy to decrease the tumor burden and hopefully relieve airway
   collapse.  Initial metastatic workup has been negative with negative
   Abd and Brain imaging.
   - Consult Onc
   - Consult Rad/Onc
   - Attempt to get pathology from [**Hospital6 **]
   - Bring CD of CT to our radiology dept
   - Consider SW consult for coping with difficult new diagnosis
   .
   #.  SVC Syndrome:  Secondary to lung mass and bulkly lymphadenopathy.
   Will continue IV steroids to decrease inflammation.  As above, will
   likely improve as tumor burden addressed.
   .
   #.  Chronic Back pain:  Secondary to scoliosis.  Continue fentanyl
   while sedated.  Can transition back to home oxycodone once off
   sedation.
   .
   #.  Tobacco Abuse:  Continue nicotine patch.
   .
   .
   FEN:  Tubefeeding per nutrition consult, replete lytes PRN, insulin ss
   while on steroids.
   .
   PPX:
   -DVT ppx with hep sc tid
   -Bowel regimen  senna and colace
   -Pain management with fentanyl
   .
   ACCESS: PIV's, will ask IV to place PICC in AM
   .
   CODE STATUS: Full
   .
   EMERGENCY CONTACT:  [**Name (NI) 186**], HCP [**Name (NI) **] [**Name (NI) 11906**] [**0-0-**], [**First Name4 (NamePattern1) 376**] [**Known lastname 11906**] (daughter) [**Telephone/Fax (1) 11907**], [**Telephone/Fax (1) 11908**]
   .
   DISPOSITION:  ICU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2112-11-10**] 10:11 PM
   22 Gauge - [**2112-11-10**] 10:12 PM
   18 Gauge - [**2112-11-10**] 10:28 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2112-11-12 10:44:00 Physician Attending Progress Note
Chief Complaint:  respiratory failure, NSCLC
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   55yo F with minimal past medical history now with large NSCLC in R lung
   and complete occulsion of RUL and RML on ventilator.  She started
   radiation yesterday and had second treatment today. Plan to transfer to
   [**Hospital Ward Name **] tonight for rigid bronch and RLL stent on Sunday then
   transfer back here on tomorrow.
   24 Hour Events:
 BRONCHOSCOPY - At [**2112-11-11**] 11:45 AM
 RADIATION THERAPY - At [**2112-11-11**] 05:00 PM
   Patient unable to provide history: intubated
   Allergies:
   Morphine
   Unknown;
   Sulfa (Sulfonamide Antibiotics)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Infusions:
   Fentanyl - 125 mcg/hour
   Midazolam (Versed) - 5 mg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2112-11-11**] 07:20 PM
   Heparin Sodium (Prophylaxis) - [**2112-11-12**] 07:48 AM
   Midazolam (Versed) - [**2112-11-12**] 09:00 AM
   Fentanyl - [**2112-11-12**] 09:00 AM
   Other medications:
   nicotine patch
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2112-11-12**] 10:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37.2
C (98.9
   HR: 85 (61 - 117) bpm
   BP: 113/62(74) {87/51(60) - 155/75(94)} mmHg
   RR: 14 (13 - 20) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    710 mL
                                                                    293 mL
   PO:
             30 mL
   TF:
             7 mL
   IVF:
                                                                    710 mL
                                                                    256 mL
   Blood products:
   Total out:
                                                                  1,460 mL
                                                                    285 mL
   Urine:
                                                                  1,460 mL
                                                                    285 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -750 mL
                                                                      8 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 60%
   RSBI Deferred: FiO2 > 60%
   PIP: 40 cmH2O
   Plateau: 24 cmH2O
   Compliance: 22 cmH2O/mL
   SpO2: 96%
   ABG: ///28/
   Ve: 6.2 L/min
   Physical Examination
   General Appearance: Thin, pale
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube,
   right side of head/neck swollen
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : on left , Diminished: on
   right), small amt of tan, yellow secretions
   Abdominal: Non-tender, Bowel sounds present, No(t) Distended, firm
   abdomen
   Extremities: no edema
   Skin:  Warm, No(t) Rash:
   Neurologic: Responds to: Tactile stimuli, Movement: Purposeful,
   Sedated, Tone: Not assessed, eyes open spontaneously
   Labs / Radiology
   9.8 g/dL
   274 K/uL
   100 mg/dL
   0.5 mg/dL
   28 mEq/L
   4.4 mEq/L
   24 mg/dL
   104 mEq/L
   140 mEq/L
   29.8 %
   12.1 K/uL
        [image002.jpg]
                             [**2112-11-11**]  12:09 AM
                             [**2112-11-11**]  12:17 AM
                             [**2112-11-11**]  04:05 AM
                             [**2112-11-12**]  02:57 AM
   WBC
   10.5
   12.1
   Hct
   29.4
   29.8
   Plt
   315
   274
   Cr
   0.5
   0.5
   0.5
   TCO2
   30
   Glucose
   94
   96
   101
   100
   Other labs: Lactic Acid:1.3 mmol/L, Ca++:9.9 mg/dL, Mg++:2.1 mg/dL,
   PO4:3.9 mg/dL
   Assessment and Plan
   Resp failure
   Stable on vent with easy ventilation, FiO2 0.6 and PEEP 5.
   Try to wean FiO2 if possible.
   NSCLC, on palliative XRT.
   Rigid bronch with stent placement planned by IP.
   SW consult.
   Continue meeting with family to update, support.
   SVC syndrome.
   Solumedrol 40mg IV q8, decrease to [**Hospital1 **].
   Agitation, on fent and versed.
   Nicotine patch, increase to 21mg.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2112-11-12**] 09:40 AM 10 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2112-11-10**] 10:11 PM
   22 Gauge - [**2112-11-10**] 10:12 PM
   18 Gauge - [**2112-11-10**] 10:28 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes, critically ill

2112-11-13 07:47:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Lung cancer
   24 Hour Events:
 NUCLEAR MEDICINE - At [**2112-11-12**] 08:36 AM
   Arrived on Unit
   Slight temp to 100.6
   One episode of mild hypotension, resolved with 500cc bolus
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Morphine
   Unknown;
   Sulfa (Sulfonamide Antibiotics)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Infusions:
   Fentanyl - 150 mcg/hour
   Midazolam (Versed) - 5 mg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2112-11-12**] 10:51 AM
   Fentanyl - [**2112-11-12**] 10:51 AM
   Heparin Sodium (Prophylaxis) - [**2112-11-12**] 10:11 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2112-11-13**] 07:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 37.4
C (99.4
   HR: 66 (65 - 112) bpm
   BP: 85/50(59) {85/46(57) - 138/70(85)} mmHg
   RR: 14 (12 - 17) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,870 mL
                                                                    987 mL
   PO:
                                                                     30 mL
             TF:
                                                                    202 mL
   IVF:
                                                                  2,307 mL
                                                                    987 mL
   Blood products:
   Total out:
                                                                    715 mL
                                                                    270 mL
   Urine:
                                                                    715 mL
                                                                    270 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,155 mL
                                                                    717 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 60%
   PIP: 28 cmH2O
   Plateau: 22 cmH2O
   SpO2: 99%
   ABG: ///26/
   Ve: 5.6 L/min
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4,
   (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Diminished: Right side)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   293 K/uL
   9.9 g/dL
   117 mg/dL
   0.5 mg/dL
   26 mEq/L
   4.2 mEq/L
   25 mg/dL
   108 mEq/L
   143 mEq/L
   30.4 %
   13.3 K/uL
        [image002.jpg]
                             [**2112-11-11**]  12:09 AM
                             [**2112-11-11**]  12:17 AM
                             [**2112-11-11**]  04:05 AM
                             [**2112-11-12**]  02:57 AM
                             [**2112-11-13**]  03:50 AM
   WBC
   10.5
   12.1
   13.3
   Hct
   29.4
   29.8
   30.4
   Plt
   [**Telephone/Fax (3) 11944**]
   Cr
   0.5
   0.5
   0.5
   0.5
   TCO2
   30
   Glucose
   94
   96
   101
   100
   117
   Other labs: Lactic Acid:1.3 mmol/L, Ca++:9.3 mg/dL, Mg++:1.8 mg/dL,
   PO4:3.5 mg/dL
   Imaging: LUE U/S: PFI: No left upper extremity DVT. Diffuse
   subcutaneous edema.
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   55 yo female with new diagnosis of non-small cell lung carcinoma
   causing SVC syndrome and respiratory distress, transferred for further
   evauluation.
   .
   #  Respiratory Failure:  The patient has a high a-A gradient (262.5)
   while on FiO2 of 60%.  Likely this is secondary to shunt physiology,
   perfusion of collapsed lung of RUL and RML as well as compressive
   atelectasis in RLL.  This is likely a fixed defect and will not improve
   with recruitment trials until cause of collapse is addressed (see
   below).    Patient to go for endobronchial stenting in am [**11-13**]. by
   rigid bronch with IP.
   - Continue steroids to decrease inflammation, ISS while on steroids
   - Continue fentanyl/versed for sedation/pain control
   - Transfer back to [**Hospital Unit Name 1**] tomorrow for continued radiation
   .
   #.  Non-Small Cell Lung Cancer:  New diagnosis, now s/p 2 treatments of
   XRT since [**11-11**].  Heme/Onc also following.  Initial metastatic workup
   has been negative with negative Abd and Brain imaging.
   - pathology from [**Hospital6 **] here
   -CT from OSH with rad onc
   -f/u rad onc/heme onc recs
   -SW consult
   .
   #.  SVC Syndrome:  Secondary to lung mass and bulkly lymphadenopathy.
   Will continue IV steroids to decrease inflammation.  As above, will
   likely improve as tumor burden addressed.
   .
   # LUE swelling: No DVT on U/S. Likely from SVC syndrome. Con't to
   monitor.
   .
   #.  Chronic Back pain:  Secondary to scoliosis.  Continue fentanyl
   while sedated.  Can transition back to home oxycodone once off
   sedation.
   .
   #.  Tobacco Abuse:  Continue nicotine patch
   .
   FEN:  NPO for procedure, replete lytes PRN, insulin ss while on
   steroids.
   .
   PPX:
   -DVT ppx with hep sc tid
   -Bowel regimen  senna and colace
   -Pain management with fentanyl
   .
   ACCESS: PIV's, PICC on Monday
   .
   CODE STATUS: Full
   .
   EMERGENCY CONTACT:  [**Name (NI) 186**], HCP [**Name (NI) **] [**Name (NI) 11906**] [**0-0-**], [**First Name4 (NamePattern1) 376**] [**Known lastname 11906**] (daughter) [**Telephone/Fax (1) 11907**], [**Telephone/Fax (1) 11908**]
   .
   DISPOSITION:  ICU for now
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2112-11-10**] 10:28 PM
   22 Gauge - [**2112-11-13**] 05:40 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:

2112-11-13 10:13:00 Physician Attending Progress Note
HPI:
   55F with newly dx NSCLC with obstructing lesion in RML/RUL with
   collapse.  Intubated with hypoxemic respiratory failure, thought
   secondary to her obstruction and collapse.  S/p XRT x 2 treatments.
   24 Hour Events:
   Transferred from [**Hospital Ward Name 1437**] yesterday with plan for rigid bronchoscopy
   today for stent. Fever to 100.6 overnight, mild hypotension overnight
   resolved with 500ml bolus.
   Allergies:
   Morphine
   Unknown;
   Sulfa (Sulfonamide Antibiotics)
   Nausea/Vomiting
   Infusions:
   Midazolam (Versed) - 5 mg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2112-11-12**] 10:51 AM
   Fentanyl - [**2112-11-12**] 10:51 AM
   Famotidine (Pepcid) - [**2112-11-13**] 07:55 AM
   Heparin Sodium (Prophylaxis) - [**2112-11-13**] 07:55 AM
   Other medications:
   Solumedrol 40IV [**Hospital1 **]
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   None
   Flowsheet Data as of  [**2112-11-13**] 09:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 36.8
C (98.3
   HR: 71 (65 - 112) bpm
   BP: 114/68(79) {85/46(57) - 138/70(85)} mmHg
   RR: 14 (12 - 16) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,870 mL
                                                                  1,072 mL
   PO:
                                                                     30 mL
             TF:
                                                                    202 mL
   IVF:
                                                                  2,307 mL
                                                                  1,012 mL
   Blood products:
   Total out:
                                                                    715 mL
                                                                    295 mL
   Urine:
                                                                    715 mL
                                                                    295 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,155 mL
                                                                    777 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 28 cmH2O
   Plateau: 22 cmH2O
   SpO2: 99%
   ABG: ///26/
   Ve: 5.7 L/min
   Physical Examination
   Gen: Sedated, opens eyes to voice
   HEENT: neck swelling, firm c/w known tumor and adenopathy
   Chest: Bronchial breath sounds in RUL; inspiratory high-pitched
   inspiratory sound in RUL
   CV: RRR
   Abd: s/nt/nd
   Ext: minimal edema in LE; LUE edema
   Labs / Radiology
   9.9 g/dL
   293 K/uL
   117 mg/dL
   0.5 mg/dL
   26 mEq/L
   4.2 mEq/L
   25 mg/dL
   108 mEq/L
   143 mEq/L
   30.4 %
   13.3 K/uL
        [image002.jpg]
                             [**2112-11-11**]  12:09 AM
                             [**2112-11-11**]  12:17 AM
                             [**2112-11-11**]  04:05 AM
                             [**2112-11-12**]  02:57 AM
                             [**2112-11-13**]  03:50 AM
   WBC
   10.5
   12.1
   13.3
   Hct
   29.4
   29.8
   30.4
   Plt
   [**Telephone/Fax (3) 11944**]
   Cr
   0.5
   0.5
   0.5
   0.5
   TCO2
   30
   Glucose
   94
   96
   101
   100
   117
   Other labs: PT / PTT / INR:13.4/25.7/1.1, Lactic Acid:1.3 mmol/L,
   Ca++:9.3 mg/dL, Mg++:1.8 mg/dL, PO4:3.5 mg/dL
   Upper extremity U/S: no DVT
   CXR:  RUL opacity.
   Assessment and Plan
   55yoF with recent dx of NSCLC; transferred from [**Hospital Ward Name 1437**] for rigid
   bronchoscopy and stent of obstructing lesions.
   1. NSCLC and hypoxemic respiratory failure
   - Continue steroids
   - Rigid bronch today with stents
   - can return to [**Hospital Unit Name 1**]
   2. ID: low-grade fever; but relatively stable oxygenation and WBC
   - monitor for PNA as she
s at risk of post-obstruction
   Remainder of plan per resident progress note.
   ICU Care
   Nutrition: Currently NPO for procedure
   Glycemic Control:  Glucose within range; insulin sliding scale
   Lines:
   18 Gauge - [**2112-11-10**] 10:28 PM
   22 Gauge - [**2112-11-13**] 05:40 AM
   Prophylaxis:
   DVT:  heparin SQ
   Stress ulcer:  H2
   VAP:  HOB/chlorhexidine
   Communication:  Update family
   Code status: Full code
   Disposition : Critically ill, remain in ICU
   Total time spent:  35minutes CCT

2112-11-14 00:37:00 Physician Resident Progress Note
RESIDENT TRANSFER NOTE
   Chief Complaint: Lung Cancer
   24 Hour Events:
 NUCLEAR MEDICINE - At [**2112-11-12**] 08:36 AM
   Patient transferred from MICU to [**Hospital Unit Name 1**].  Underwent rigid bronchoscopy
   with placement of Right mainstem stent today in preparation for likely
   edema from ongoing XRT.  Patient tolerated procedure well.  Has
   undergone XRT x2 doses and plans to resume tomorrow.
   Fentanyl increased from 150 to 200 mcg/hr prior to transfer for patient
   comfort.
   Allergies:
   Morphine
   Unknown;
   Sulfa (Sulfonamide Antibiotics)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Infusions:
   Fentanyl - 200 mcg/hour
   Midazolam (Versed) - 5 mg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2112-11-13**] 07:55 AM
   Heparin Sodium (Prophylaxis) - [**2112-11-13**] 09:03 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2112-11-14**] 12:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.7
C (98.1
   HR: 88 (59 - 109) bpm
   BP: 127/61(76) {85/50(59) - 159/81(99)} mmHg
   RR: 14 (14 - 23) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,599 mL
                                                                     39 mL
   PO:
             TF:
   IVF:
                                                                  1,509 mL
                                                                     15 mL
   Blood products:
   Total out:
                                                                    845 mL
                                                                    190 mL
   Urine:
                                                                    845 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    754 mL
                                                                     39 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
 to be increased to 60%
   PIP: 32 cmH2O
   Plateau: 21 cmH2O
   SpO2: 93%
   ABG: 7.43/45/60/31 (last night)
   Ve: 5.6 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress, intubated and
   sedated
   HEENT: Face markedly plethoric, with edema of the neck and dilated
   veins over neck and chest
   Cardiovascular: RRR, S1, S2, no murmur appreciated.  PMI displaced
   medially
   Pulm: Ronchi over anterior lung fields (R>L)
   Abd: Soft, ND, bowel sounds present
   Extrem: 1+ edema in upper extremities b/l.  LE with no c/c/e.  2+
   pulses throughout.
   Neurologic: Responds to: Verbal stimuli: opens eyes but does not track
   Labs / Radiology
   293 K/uL
   9.9 g/dL
   108 mg/dL
   0.5 mg/dL
   23 mEq/L
   4.5 mEq/L
   26 mg/dL
   107 mEq/L
   140 mEq/L
   30.4 %
   13.3 K/uL
        [image002.jpg]
                             [**2112-11-11**]  12:09 AM
                             [**2112-11-11**]  12:17 AM
                             [**2112-11-11**]  04:05 AM
                             [**2112-11-12**]  02:57 AM
                             [**2112-11-13**]  03:50 AM
   WBC
   10.5
   12.1
   13.3
   Hct
   29.4
   29.8
   30.4
   Plt
   [**Telephone/Fax (3) 11944**]
   Cr
   0.5
   0.5
   0.5
   0.5
   TCO2
   30
   Glucose
   94
   96
   101
   100
   117
   Other labs: PT / PTT / INR:13.4/25.7/1.1, Lactic Acid:1.3 mmol/L,
   Ca++:9.3 mg/dL, Mg++:1.8 mg/dL, PO4:3.5 mg/dL
   CXR today shows good placement ETT, stable RUL and RML collapse.
   Slightly increased opacity of right base. (my read)
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   55 yo female with new diagnosis of non-small cell lung carcinoma
   causing SVC syndrome and respiratory distress, transferred for further
   evaluation and treatment.  Now s/p placement of stent in rt main
   bronchus and XRT x 2.
   .
   #  Respiratory Failure:  The patient has a high a-A gradient, likely
   is secondary to shunt physiology, perfusion of collapsed lung of RUL
   and RML as well as compressive atelectasis in RLL.  This is likely a
   fixed defect and will not improve with recruitment trials while patient
   undergoing XRT that is likely to cause further edema and
   inflammation.    Patient s/p endobronchial stenting on [**11-13**] in
   preparation for inflammation/edema that will likely be caused by
   continued XRT.
   - Continue steroids to decrease inflammation, ISS while on steroids
   - Patient to likely need trach; plan for discussion with family in
   conjunction with oncology team
   - sputum Cx as pt immunocompromised with endobronchial procedure
   yesterday
 at high risk for post-obstructive pneumonia
   - low threshold to start abx empirically for post-obstructive pneumonia
   - Continue fentanyl/versed for sedation/pain control
   .
   #.  Non-Small Cell Lung Cancer:  New diagnosis, now s/p 2 treatments of
   XRT since [**11-11**].  Heme/Onc also following.  Initial metastatic workup
   has been negative with negative Abd and Brain imaging.
   - plan for XRT today; radonc to reevaluate course of treatment
   -SW consult
   - plan for family meeting with oncology team to address goals of care
   and prognosis
   .
   #.  SVC Syndrome:  Secondary to lung mass and bulkly lymphadenopathy.
   Will continue IV steroids to decrease inflammation.  As above, will
   likely improve as tumor burden addressed.
   .
   # LUE swelling: No DVT on U/S. Likely from SVC syndrome. Con't to
   monitor.
   .
   #.  Chronic Back pain:  Secondary to scoliosis.  Continue fentanyl
   while sedated.  Can transition back to home oxycodone once off
   sedation.
   .
   #.  Tobacco Abuse:  Continue nicotine patch
   .
   ACCESS: PIV's, PICC to be placed today
   .
   CODE STATUS: Full
   .
   EMERGENCY CONTACT:  [**Name (NI) 186**], HCP [**Name (NI) **] [**Name (NI) 11906**] [**0-0-**], [**First Name4 (NamePattern1) 376**] [**Known lastname 11906**] (daughter) [**Telephone/Fax (1) 11907**], [**Telephone/Fax (1) 11908**]
   .
   DISPOSITION:  ICU for now
   ICU Care
   Nutrition: Replete with fiber
   Glycemic Control:  humalog SS
   Lines:
   22 Gauge - [**2112-11-13**] 05:40 AM
   20 Gauge - [**2112-11-13**] 04:03 PM
   Plan for PICC today
   Prophylaxis:
   DVT: heparin SC
   Stress ulcer: H2 blocker
   VAP:  HOB elevation, Mouth care, Daily wake up, RSBI
   Comments: Bowel regimen with senna and colace
   Communication:  Comments: Husband [**Name (NI) **] [**Name (NI) 11906**]
   Code status: Full code
   Disposition: [**Hospital Unit Name 1**]

2112-11-15 07:32:00 Physician Resident Progress Note
TITLE: [**Hospital Unit Name 1**] Resident Progress Note
   Chief Complaint:
   24 Hour Events:
   - needs PICC today
   - XRT today and Wednesday, then nothing scheduled
   - updated daughter with heme/onc: she seems realistic about severity of
   her mother's condition (was told that while we also HOPE for
   extubation, we think that this might not be a possibility)
   - family meeting today planned for about 2-3pm (patient's mother - a RN
   - will be there in addition to husband), rad onc did not return page
   but ideally they and med onc should be there
   - switched from versed to propofol overnight so patient could try to
   explain own wishes in am
   - CDs of CT scan in med chart for med onc to review
   - had to increase fentanyl and propofol this am for aggitation; c/o
   back pain
   Allergies:
   Morphine
   Unknown;
   Sulfa (Sulfonamide Antibiotics)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Infusions:
   Propofol - 30 mcg/Kg/min
   Fentanyl - 300 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2112-11-14**] 08:00 AM
   Famotidine (Pepcid) - [**2112-11-14**] 08:00 AM
   Fentanyl - [**2112-11-15**] 04:26 AM
   Other medications:
   Changes to medical and family history:
   - per daugther, no known hx of depression
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2112-11-15**] 07:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.9
C (98.4
   HR: 97 (65 - 120) bpm
   BP: 161/76(95) {101/56(69) - 185/98(126)} mmHg
   RR: 21 (4 - 23) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    779 mL
                                                                    281 mL
   PO:
             TF:
   IVF:
                                                                    779 mL
                                                                    281 mL
   Blood products:
   Total out:
                                                                    815 mL
                                                                    265 mL
   Urine:
                                                                    815 mL
                                                                    265 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -36 mL
                                                                     16 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 60%
   RSBI Deferred: FiO2 > 60%
   PIP: 28 cmH2O
   Plateau: 23 cmH2O
   Compliance: 27.8 cmH2O/mL
   SpO2: 97%
   ABG: //// Not in last 24 hours
   Ve: 7.2 L/min
   Physical Examination
   General Appearance: Intubated and sedated, answering questions
   appropriately
   HEENT: Face with marked edema and with edema of the neck and dilated
   veins over neck and chest
   Cardiovascular: RRR, S1, S2, no murmur appreciated.  PMI displaced
   medially
   Pulm: Rhonchi over anterior lung fields (R>L)
   Abd: Soft, ND, bowel sounds present
   Extrem: 1+ edema in upper extremities b/l.  LE with no c/c/e.  2+
   pulses throughout.
   Labs / Radiology
   217 K/uL
   9.9 g/dL
   108 mg/dL
   0.5 mg/dL
   23 mEq/L
   4.5 mEq/L
   26 mg/dL
   107 mEq/L
   140 mEq/L
   30.0 %
   13.0 K/uL
        [image002.jpg]
                             [**2112-11-11**]  12:09 AM
                             [**2112-11-11**]  12:17 AM
                             [**2112-11-11**]  04:05 AM
                             [**2112-11-12**]  02:57 AM
                             [**2112-11-13**]  03:50 AM
                             [**2112-11-14**]  01:16 AM
                             [**2112-11-14**]  03:48 AM
                             [**2112-11-15**]  04:20 AM
   WBC
   10.5
   12.1
   13.3
   13.0
   Hct
   29.4
   29.8
   30.4
   30.0
   Plt
   [**Telephone/Fax (3) 12006**]17
   Cr
   0.5
   0.5
   0.5
   0.5
   0.5
   TCO2
   30
   31
   Glucose
   94
   96
   101
   100
   117
   108
   Other labs: PT / PTT / INR:13.4/25.7/1.1, Lactic Acid:1.3 mmol/L,
   Ca++:9.4 mg/dL, Mg++:1.8 mg/dL, PO4:3.3 mg/dL
[**2112-11-15**] 4:20 am SPUTUM      Source: Endotracheal.
   GRAM STAIN (Final [**2112-11-15**]):
      >25 PMNs and <10 epithelial cells/100X field.
      3+  (5-10 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                    IN PAIRS AND CLUSTERS.
      2+   (1-5 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
   RESPIRATORY CULTURE (Preliminary):
   CXR [**2112-11-14**]: 1. Increased right lower lobe opacity compatible with
   pneumonia-aspiration or increasing pleural effusion with adjacent
   atelectasis. 2. Stable right upper lobe collapse.
   CXR today in OMR
   Assessment and Plan
   55 yo female with new diagnosis of non-small cell lung carcinoma
   causing SVC syndrome and respiratory distress, transferred for further
   evaluation and treatment.  Now s/p placement of stent in rt main
   bronchus and XRT x 2.
   #  Respiratory Failure:  The patient has a high a-A gradient, likely
   is secondary to shunt physiology, perfusion of collapsed lung of RUL
   and RML as well as compressive atelectasis in RLL.  This is likely a
   fixed defect and will not improve with recruitment trials while patient
   undergoing XRT that is likely to cause further edema and
   inflammation.    Patient s/p endobronchial stenting on [**11-13**] in
   preparation for inflammation/edema that will likely be caused by
   continued XRT.   Do feel that hypoxemia is more substantial than chest
   xray would explain.
   - Review CT scan with radiology
   - Decrease FiO2 as tolerated today to assess for response to radiation
   - Continue steroids to decrease inflammation, ISS while on steroids
   - Patient to likely need trach; plan for discussion with family in
   conjunction with oncology team this afternoon
   - Sputum Cx as pt immunocompromised with endobronchial procedure
   yesterday
 at high risk for post-obstructive pneumonia
   - Low threshold to start abx empirically for post-obstructive pneumonia
   - Continue fentanyl/propofol for sedation/pain control
   #.  Non-Small Cell Lung Cancer:  New diagnosis, now s/p 2 treatments of
   XRT since [**11-11**].  Heme/Onc also following.  Initial metastatic workup
   has been negative with negative Abd and Brain imaging but has likely
   positive lymph nodes based on OSH imaging
   - plan for XRT today; rad-onc to reevaluate course of treatment
   -SW consult
   - plan for family meeting with oncology team to address goals of care
   and prognosis
   - review imaging as above
   #.  SVC Syndrome:  Secondary to lung mass and bulkly lymphadenopathy.
   Will continue IV steroids to decrease inflammation.  As above, will
   likely improve as tumor burden addressed.
   # LUE swelling: No DVT on U/S. Likely from SVC syndrome. Con't to
   monitor.
   #.  Chronic Back pain:  Secondary to scoliosis.  Continue fentanyl
   while sedated.  Can transition back to home oxycodone once off
   sedation.
   #.  Tobacco Abuse:  Continue nicotine patch
   ICU Care
   Nutrition: Tube feeds
   Glycemic Control:  ISS
   Lines:  22 Gauge - [**2112-11-13**] 05:40 AM
   20 Gauge - [**2112-11-13**] 04:03 PM
   Plan for PICC today, if possible
   Prophylaxis:
   DVT:  SC Heparin
   Stress ulcer: Famotidine
   VAP:  HOB elevation, Mouth care, Daily wake up, RSBI
   Comments: Bowel regimen with senna and [**Last Name (LF) 3318**], [**First Name3 (LF) **] add Miralax
   Communication:  Comments: Husband, HCP [**Name (NI) **] [**Name (NI) 11906**] [**0-0-**], [**First Name4 (NamePattern1) 376**] [**Known lastname 11906**] (daughter) [**Telephone/Fax (1) 11907**], [**Telephone/Fax (1) 11908**]
   Code status: Full code
   Disposition: [**Hospital Unit Name 1**]

2112-11-16 07:36:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - START [**2112-11-16**] 12:00 AM
   - Family meeting planned for 2pm today with heme/onc, rad/onc, and
   critical care team
   - Underwent very skillful stool disimpaction
   - PICC deferred until tomorrow because couldn't squeeze her in before
   radiation today
   - Went to radiation, plan for another session [**11-16**]
   - CT at OSH uploaded into system
   - Weaned to FiO2 50%, Tried on PS 5/5 this evening briefly but felt
   propofol was impeding breathing, decreased sedation and then placed on
   PS 18/8 with FiO2 40%
   - A-line placed
   - gave 1L NS bolus for decreased UOP
   - K was repleted at 4am and nsg wanted po repletion because her IVs are
   a little tenuous, about an hour after dose she had two episodes of
   non-bilious vomiting, given zofran for nausea
   Allergies:
   Morphine
   Unknown;
   Sulfa (Sulfonamide Antibiotics)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Infusions:
   Fentanyl - 150 mcg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2112-11-15**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2112-11-15**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2112-11-16**] 07:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 37
C (98.6
   HR: 89 (63 - 103) bpm
   BP: 141/66(92) {95/49(64) - 162/66(92)} mmHg
   RR: 13 (6 - 23) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,088 mL
                                                                  1,710 mL
   PO:
             TF:
                                                                     75 mL
                                                                    160 mL
   IVF:
                                                                    853 mL
                                                                  1,200 mL
   Blood products:
   Total out:
                                                                    796 mL
                                                                    225 mL
   Urine:
                                                                    796 mL
                                                                    225 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    292 mL
                                                                  1,485 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 369 (369 - 369) mL
   PS : 18 cmH2O
   RR (Set): 12
   RR (Spontaneous): 11
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 27 cmH2O
   Plateau: 29 cmH2O
   Compliance: 19.4 cmH2O/mL
   SpO2: 93%
   ABG: 7.39/51/84.[**Numeric Identifier 1000**]/29/4
   Ve: 4.1 L/min
   PaO2 / FiO2: 210
   Physical Examination
   Gen: Awake and responding appropriately to questions.  NAD.  Looking
   comfortable.  ET tube in place.
   HEENT: plethoric face, dilated vessels in face and neck
   CV: RRR, nl S1, S2, no murmurs appreciated
   Pulm: Diffusely rhonchorus on anterior exam
   Abd: Soft, NT, ND, +BS
   Extrem: 1+ edema on UE b/l (improved from prior exams), no c/c/e of
   lower extremities, 2+ pulses throughout
   Labs / Radiology
   490 K/uL
   10.0 g/dL
   122 mg/dL
   0.4 mg/dL
   29 mEq/L
   4.2 mEq/L
   28 mg/dL
   103 mEq/L
   138 mEq/L
   30.5 %
   12.4 K/uL
        [image002.jpg]
                             [**2112-11-11**]  12:17 AM
                             [**2112-11-11**]  04:05 AM
                             [**2112-11-12**]  02:57 AM
                             [**2112-11-13**]  03:50 AM
                             [**2112-11-14**]  01:16 AM
                             [**2112-11-14**]  03:48 AM
                             [**2112-11-15**]  04:20 AM
                             [**2112-11-16**]  02:11 AM
                             [**2112-11-16**]  04:14 AM
                             [**2112-11-16**]  05:03 AM
   WBC
   10.5
   12.1
   13.3
   13.0
   12.4
   Hct
   29.4
   29.8
   30.4
   30.0
   30.5
   Plt
   [**Telephone/Fax (3) 12006**]17
   490
   Cr
   0.5
   0.5
   0.5
   0.5
   0.5
   0.4
   TCO2
   31
   32
   32
   Glucose
   96
   101
   100
   117
   108
   111
   122
   Other labs: PT / PTT / INR:13.4/25.7/1.1, Lactic Acid:0.8 mmol/L,
   Ca++:8.9 mg/dL, Mg++:1.8 mg/dL, PO4:4.1 mg/dL
[**2112-11-15**] 4:20 am SPUTUM      Source: Endotracheal.
   GRAM STAIN (Final [**2112-11-15**]):
      >25 PMNs and <10 epithelial cells/100X field.
      3+  (5-10 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                    IN PAIRS AND CLUSTERS.
      2+   (1-5 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
   RESPIRATORY CULTURE (Preliminary):
   CXR today: Worsening effusion on rt. (my read)
   Assessment and Plan
 CONSTIPATION (OBSTIPATION, FOS)
 SUPERIOR VENA CAVA SYNDROME (SVC)
 TOBACCO USE, CURRENT
 CANCER (MALIGNANT NEOPLASM), LUNG
   NSCLC
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   55 yo female with new diagnosis of non-small cell lung carcinoma
   causing SVC syndrome and respiratory distress, transferred for further
   evaluation and treatment.  Now s/p placement of stent in rt main
   bronchus and XRT x 4.
   #  Respiratory Failure:  The patient has a high a-A gradient, likely
   is secondary to shunt physiology, perfusion of collapsed lung of RUL
   and RML as well as compressive atelectasis in RLL.  This is likely a
   fixed defect and will not improve with recruitment trials while patient
   undergoing XRT that is likely to cause further edema and
   inflammation.    Patient s/p endobronchial stenting on [**11-13**] in
   preparation for inflammation/edema that will likely be caused by
   continued XRT.   Do feel that hypoxemia is more substantial than chest
   xray would explain.  CXR this AM suggestive of worsening rt sided
   effusion.
   - Continue steroids to decrease inflammation, ISS while on steroids
   - Patient to likely need trach; plan for discussion with family in
   conjunction with oncology team this afternoon
   - Sputum Cx shows CPCs and GNRs; pt at high risk for post-obstructive
   pneumonia, but will wait for culture or clinic change to start Abx
   - Continue fentanyl/propofol for sedation/pain control
   - Per RT, patient having apneic episodes; will change to AC mode after
   family meeting today
   .
   # Emesis: Several episodes of brown emesis this AM; per nursing pt
   likely aspirated.  Unclear cause of nausea, but possibilities include
   pancreatitis, irritation from ET tube in setting of decreased sedation.
   - check amylase/lipase
   - check triglycerides; if elevated will need to switch from propofol to
   other sedating medication
   - standing reglan, zofran prn
   #.  Non-Small Cell Lung Cancer:  New diagnosis, now s/p 4 treatments of
   XRT since [**11-11**].  Heme/Onc also following.  Initial metastatic workup
   has been negative with negative Abd and Brain imaging but has likely
   positive lymph nodes based on OSH imaging
   - plan for XRT today; rad-onc to reevaluate course of treatment
   - SW consult
   - plan for family meeting with oncology team to address goals of care
   and prognosis
   #.  SVC Syndrome:  Secondary to lung mass and bulkly lymphadenopathy.
   Will continue IV steroids to decrease inflammation.  As above, will
   likely improve as tumor burden addressed.
   # LUE swelling: No DVT on U/S. Likely from SVC syndrome. Con't to
   monitor.
   #.  Chronic Back pain:  Secondary to scoliosis.  Continue fentanyl
   while sedated.  Can transition back to home oxycodone once off
   sedation.
   #.  Tobacco Abuse:  Continue nicotine patch
   ICU Care
   Nutrition: Tube feeds
   Glycemic Control:  Insulin SS
   Lines:
   22 Gauge - [**2112-11-13**] 05:40 AM
   20 Gauge - [**2112-11-13**] 04:03 PM
   Arterial Line - [**2112-11-16**] 12:00 AM
   -PICC line to be placed in IR today
   Prophylaxis:
   DVT: Heparin SC
   Stress ulcer: H2 blocker
   VAP:  HOB elevation, Mouth care, Daily wake up, RSBI
   Comments: Bowel regimen with senna, colace, miralax
   Communication:  Comments: Husband [**Name (NI) **] [**Name (NI) 11906**]
   Code status: Full code
   Disposition: ICU

2112-11-17 07:43:00 Physician Resident Progress Note
TITLE: [**Hospital Unit Name 1**] Resident Progress Note
   Chief Complaint: NSCLC
   24 Hour Events:
   - Family meeting held with onc, rad/onc; explained poor prognosis and
   unlikely to be extubated.  Family wants hospice, DNR/DNI. [**First Name8 (NamePattern2) 376**] [**Last Name (NamePattern1) **]
   from pall care will see family at 10am tomorrow.  Goal is to get pt
   home but understand that may not be possible -> if not, want a few days
   to get family members into town to see her.
   - PVCs and hypotensive to 70s when getting PICC
   - Desats to high 80s - FiO2 up to 50%
   - fever to 101.4 at 1730, cultured, having coffee ground emesis maybe
   ?gastritis or radiation esophagitis
   - Put back on fentanyl drip (continuous rather than bolus)
   - Amylase up, but lipase and TG normal.
   - NIF 32; vent settings changed in PM to Volume control at Vt350, RR
   18, peep 5
 PICC LINE - START [**2112-11-16**] 05:09 PM
 BLOOD CULTURED - At [**2112-11-16**] 08:01 PM
 URINE CULTURE - At [**2112-11-16**] 08:01 PM
 FEVER - 101.4
F - [**2112-11-16**] 05:52 PM
   Allergies:
   Morphine
   Unknown;
   Sulfa (Sulfonamide Antibiotics)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Infusions:
   Fentanyl - 500 mcg/hour
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2112-11-17**] 07:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.4
   Tcurrent: 36.4
C (97.5
   HR: 90 (68 - 109) bpm
   BP: 142/67(91) {84/43(58) - 185/96(126)} mmHg
   RR: 18 (8 - 20) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,054 mL
                                                                    323 mL
   PO:
             TF:
                                                                    160 mL
   IVF:
                                                                  1,544 mL
                                                                    323 mL
   Blood products:
   Total out:
                                                                  1,135 mL
                                                                    205 mL
   Urine:
                                                                    685 mL
                                                                    205 mL
   NG:
                                                                    450 mL
   Stool:
   Drains:
   Balance:
                                                                    919 mL
                                                                    118 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 350 (350 - 350) mL
   Vt (Spontaneous): 381 (317 - 381) mL
   PS : 18 cmH2O
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 23 cmH2O
   Plateau: 17 cmH2O
   SpO2: 98%
   ABG: 7.54/37/99.[**Numeric Identifier 508**]/31/9 at 4am
   NIF: -32 cmH2O
   Ve: 7.5 L/min
   PaO2 / FiO2: 200
   Physical Examination
   Gen: Awake and responding appropriately to questions.  NAD.  Looking
   comfortable.  ET tube in place.
   HEENT: plethoric face, dilated vessels in face and neck
   CV: RRR, nl S1, S2, no murmurs appreciated
   Pulm: Diffusely rhonchorus on anterior exam
   Abd: Soft, NT, ND, +BS
   Extrem: 1+ edema on UE b/l (improved from prior exams), no c/c/e of
   lower extremities, 2+ pulses throughout
   Labs / Radiology
   347 K/uL
   8.1 g/dL
   84 mg/dL
   0.5 mg/dL
   31 mEq/L
   3.5 mEq/L
   26 mg/dL
   101 mEq/L
   140 mEq/L
   24.9 %
   9.5 K/uL
        [image002.jpg]
                             [**2112-11-13**]  03:50 AM
                             [**2112-11-14**]  01:16 AM
                             [**2112-11-14**]  03:48 AM
                             [**2112-11-15**]  04:20 AM
                             [**2112-11-16**]  02:11 AM
                             [**2112-11-16**]  04:14 AM
                             [**2112-11-16**]  05:03 AM
                             [**2112-11-16**]  09:56 PM
                            [**2112-11-17**]  04:13 AM
                            [**2112-11-17**]  04:26 AM
   WBC
   13.3
   13.0
   12.4
   9.5
   Hct
   30.4
   30.0
   30.5
   24.9
   Plt
   293
   217
   490
   347
   Cr
   0.5
   0.5
   0.4
   0.5
   TCO2
   31
   32
   32
   34
   33
   Glucose
   117
   108
   111
   122
   84
   Other labs: PT / PTT / INR:13.4/25.7/1.1, ALT / AST:39/27, Alk Phos / T
   Bili:145/0.4, Amylase / Lipase:112/42, Lactic Acid:0.8 mmol/L, Ca++:8.6
   mg/dL, Mg++:2.3 mg/dL, PO4:3.2 mg/dL
   Triglycerides 282
   Source: Catheter
   Color
   Yellow
   Appear
   Hazy
   SpecGr
   1.020
   pH
   6.0
   Urobil
   Neg
   Bili
   Neg
   Leuk
   Sm
   Bld
   Mod
   Nitr
   Pos
   Prot
   Tr
   Glu
   Neg
   Ket
   10
   RBC
   36
   WBC
   10
   Bact
   Few
   Yeast
   Mod
   Epi
   <1
   Other Urine Counts
   Mucous: Rare
[**2112-11-15**] 4:20 am SPUTUM      Source: Endotracheal.
   GRAM STAIN (Final [**2112-11-15**]):
      >25 PMNs and <10 epithelial cells/100X field.
      3+  (5-10 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                    IN PAIRS AND CLUSTERS.
      2+   (1-5 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
   RESPIRATORY CULTURE (Preliminary):
      Further incubation required to determine the presence or absence of
      commensal respiratory flora.
      GRAM NEGATIVE ROD(S).    MODERATE GROWTH.
   Assessment and Plan
   Emesis
   Fevers
 CONSTIPATION (OBSTIPATION, FOS)
 SUPERIOR VENA CAVA SYNDROME (SVC)
 TOBACCO USE, CURRENT
 CANCER (MALIGNANT NEOPLASM), LUNG
   NSCLC
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   55 yo female with new diagnosis of non-small cell lung carcinoma
   causing SVC syndrome and respiratory distress, transferred for further
   evaluation and treatment.  Now s/p placement of stent in rt main
   bronchus and XRT x 4.
   #  Respiratory Failure:  The patient has a high a-A gradient, likely
   is secondary to shunt physiology, perfusion of collapsed lung of RUL
   and RML as well as compressive atelectasis in RLL.  This is likely a
   fixed defect and will not improve with recruitment trials while patient
   undergoing XRT that is likely to cause further edema and
   inflammation.    Patient s/p endobronchial stenting on [**11-13**] in
   preparation for inflammation/edema that will likely be caused by
   continued XRT.
   - Continue steroids to decrease inflammation, ISS while on steroids
   - Sputum Cx shows CPCs and GNRs; pt at high risk for post-obstructive
   pneumonia, but family leaning toward comfort care at this point
   - Continue fentanyl/propofol for sedation/pain control
   .
   # Emesis: Several episodes of brown emesis this AM; per nursing pt
   likely aspirated.  Unclear cause of nausea, but possibilities include
   pancreatitis, irritation from ET tube in setting of decreased sedation.
   - amylase high, may be due to secretions from oropharynx, lipase wnl
   - standing reglan, zofran prn
   #.  Non-Small Cell Lung Cancer:  New diagnosis, now s/p 4 treatments of
   XRT since [**11-11**].  Heme/Onc also following.  Initial metastatic workup
   has been negative with negative Abd and Brain imaging but has likely
   positive lymph nodes based on OSH imaging
   - XRT complete, will get palliative care consult today
   - SW following
   #. Fever: Could be due to post-obstructive pneumonia, although WBC
   downtrending
   - Will hold off on Abx until palliative care sees patient as likely
   could be CMO
   #.  SVC Syndrome:  Secondary to lung mass and bulkly lymphadenopathy.
   Will continue IV steroids to decrease inflammation.  As above, will
   likely improve as tumor burden addressed.
   # LUE swelling: No DVT on U/S. Likely from SVC syndrome. Con't to
   monitor.
   #.  Chronic Back pain:  Secondary to scoliosis.  Continue fentanyl
   while sedated.  Can transition back to home oxycodone once off
   sedation.
   #.  Tobacco Abuse:  Continue nicotine patch
   ICU Care
   Nutrition: Tube feeds
   Glycemic Control:  ISS
   Lines: Arterial Line - [**2112-11-16**] 12:00 AM
   22 Gauge - [**2112-11-16**] 01:10 PM
   PICC Line - [**2112-11-16**] 05:09 PM
   Prophylaxis:
   DVT: Heparin SC
   Stress ulcer: H2 blocker
   VAP:  HOB elevation, Mouth care, Daily wake up, RSBI
   Comments: Bowel regimen with senna, colace, miralax
   Communication:  Comments: Husband [**Name (NI) **] [**Name (NI) 11906**]
   Code status: Full code
   Disposition: ICU

2112-11-18 07:32:00 Physician Resident Progress Note
TITLE: [**Hospital Unit Name 1**] Resident Progress Note
   Chief Complaint: NSCLC
   24 Hour Events:
   -started Vanc/Cefepime/Cipro for GNR/GPC in sputum and positive UA
   -patient expressed in front of family that wants treatment for such
   things
   -d/c'd propofol and patient more alert, feels comfortable.  Has prn
   lorazepam available
   - med onc expressed to patient and husband that chemotherapy might be
   an option and family now not clear on options
   - poor UOP at 1115pm, gave 500cc NS bolus, continued to be poor around
   1am so gave another 500cc
   - spoke with patient alone this morning.  She expressed that she wants
   to wait to make any drastic decisions and is comfortable in her current
   state, would like to extend her time in this condition as much as
   possible
   Allergies:
   Morphine
   Unknown;
   Sulfa (Sulfonamide Antibiotics)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Vancomycin - [**2112-11-17**] 06:34 PM
   Ciprofloxacin - [**2112-11-18**] 01:57 AM
   Cefipime - [**2112-11-18**] 05:10 AM
   Infusions:
   Fentanyl (Concentrate) - 250 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2112-11-17**] 08:10 PM
   Lorazepam (Ativan) - [**2112-11-18**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2112-11-18**] 07:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.6
C (99.6
   HR: 97 (59 - 97) bpm
   BP: 96/63(79) {90/51(67) - 152/84(104)} mmHg
   RR: 8 (8 - 20) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,054 mL
                                                                    875 mL
   PO:
             TF:
   IVF:
                                                                  2,054 mL
                                                                    875 mL
   Blood products:
   Total out:
                                                                  1,275 mL
                                                                    443 mL
   Urine:
                                                                    675 mL
                                                                    293 mL
   NG:
                                                                    600 mL
                                                                    150 mL
   Stool:
   Drains:
   Balance:
                                                                    779 mL
                                                                    432 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: MMV/PSV
   Vt (Set): 350 (350 - 350) mL
   Vt (Spontaneous): 889 (889 - 889) mL
   PS : 18 cmH2O
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 151
   PIP: 23 cmH2O
   Plateau: 16 cmH2O
   SpO2: 96%
   ABG: ////
   Ve: 5.8 L/min
   Physical Examination
   Gen: Awake and responding appropriately to questions.  NAD.  Looking
   comfortable.  ET tube in place.
   HEENT: Facial edema, dilated vessels in face and neck
   CV: RRR, nl S1, S2, no murmurs appreciated
   Pulm: Diffusely rhonchorus on anterior exam, R>L
   Abd: Soft, NT, ND, +BS
   Extrem: 1+ edema on UE b/l (improved from prior exams), no c/c/e of
   lower extremities, 2+ pulses throughout
   Labs / Radiology
   347 K/uL
   8.1 g/dL
   84 mg/dL
   0.5 mg/dL
   31 mEq/L
   3.5 mEq/L
   26 mg/dL
   101 mEq/L
   140 mEq/L
   24.9 %
   9.5 K/uL
        [image002.jpg]
                             [**2112-11-13**]  03:50 AM
                             [**2112-11-14**]  01:16 AM
                             [**2112-11-14**]  03:48 AM
                             [**2112-11-15**]  04:20 AM
                             [**2112-11-16**]  02:11 AM
                             [**2112-11-16**]  04:14 AM
                             [**2112-11-16**]  05:03 AM
                             [**2112-11-16**]  09:56 PM
                            [**2112-11-17**]  04:13 AM
                            [**2112-11-17**]  04:26 AM
   WBC
   13.3
   13.0
   12.4
   9.5
   Hct
   30.4
   30.0
   30.5
   24.9
   Plt
   293
   217
   490
   347
   Cr
   0.5
   0.5
   0.4
   0.5
   TCO2
   31
   32
   32
   34
   33
   Glucose
   117
   108
   111
   122
   84
   Other labs: PT / PTT / INR:13.4/25.7/1.1, ALT / AST:39/27, Alk Phos / T
   Bili:145/0.4, Amylase / Lipase:112/42, Lactic Acid:0.8 mmol/L, Ca++:8.6
   mg/dL, Mg++:2.3 mg/dL, PO4:3.2 mg/dL
[**2112-11-17**] 8:01 pm SPUTUM      Source: Endotracheal.
   GRAM STAIN (Final [**2112-11-18**]):
      2+   (1-5 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
      2+   (1-5 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                    IN PAIRS AND CLUSTERS.
      2+   (1-5 per 1000X FIELD):   GRAM POSITIVE ROD(S).
   RESPIRATORY CULTURE (Preliminary):
[**2112-11-15**] 4:20 am SPUTUM      Source: Endotracheal.
   GRAM STAIN (Final [**2112-11-15**]):
      >25 PMNs and <10 epithelial cells/100X field.
      3+  (5-10 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                    IN PAIRS AND CLUSTERS.
      2+   (1-5 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
   RESPIRATORY CULTURE (Preliminary):
      SPARSE GROWTH Commensal Respiratory Flora.
      ENTEROBACTER AEROGENES.    MODERATE GROWTH.
         This organism may develop resistance to third generation
         cephalosporins during prolonged therapy. Therefore, isolates that
         are initially susceptible may become resistant within three to
         four days after initiation of therapy.  For serious infections,
         repeat culture and sensitivity testing may therefore be warranted
         if third generation cephalosporins were used.
      GRAM NEGATIVE ROD #2.    SPARSE GROWTH.
                              SENSITIVITIES: MIC expressed in MCG/ML
                     ____________________________________
                             ENTEROBACTER AEROGENES
                             |
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----   <=1 S
[**2112-11-16**] 6:56 pm URINE      Source: Catheter.
   URINE CULTURE (Preliminary):
      STAPHYLOCOCCUS, COAGULASE NEGATIVE.    >100,000 ORGANISMS/ML..
[**2112-11-16**] 7:00 pm BLOOD CULTURE      Source: Line-PICC.
   Blood Culture, Routine (Pending):
   No CXR today
   Assessment and Plan
   55 yo female with new diagnosis of non-small cell lung carcinoma
   causing SVC syndrome and respiratory distress, transferred for further
   evaluation and treatment.  Now s/p placement of stent in rt main
   bronchus and XRT x 4.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**]):  The patient has a high
   a-A gradient, likely  is secondary to shunt physiology, perfusion of
   collapsed lung of RUL and RML as well as compressive atelectasis in
   RLL.  This is likely a fixed defect and will not improve with
   recruitment trials.  Now also with likely post-obstructive pneumonia
   with fever and GNR on sputum culture, growing Enterobacter.
   - Continue Vanc/Cefepime/Cipro IV for HAP and possibly VAP for total 8
   day course (today is day 2), can consider stopping Vanc tomorrow if no
   GPC in the sputum culture
   - Repeat sputum cx today
   - Continue steroids to decrease inflammation, ISS while on steroids
   - Continue fentanyl for sedation, have stopped propofol.  Can bolus
   midazolam/lorazepam if needed for anxiety or sedation.
   - Will assess for possibility of trach placement by IP in the future
   given patient
s wishes to prolong current condition for a while
   - Palliative care following
 NAUSEA/VOMITING: Still having drainage out of OG tube, but
   nausea/vomiting resolved.  Feel likely is related to medication effect
   or radiation gastritis.
   - amylase high, may be due to secretions from oropharynx, lipase wnl
   - standing reglan, zofran prn
 CANCER (MALIGNANT NEOPLASM), LUNG NSCLC:  New diagnosis, now s/p 4
   treatments of XRT since [**11-11**].  Heme/Onc also following.  Initial
   metastatic workup has been negative with negative Abd and Brain imaging
   but has likely positive lymph nodes based on OSH imaging
   - XRT complete
   - Heme/onc following, will get CT chest soon to evaluate current state
   of lungs/cancer.  Meeting with onc today planned for 3:30pm.
   - SW following
   - Palliative care following
   # CONSTIPATION: Still with constipation and some small episodes of
   diarrhea.  Likely is related to high doses of fentanyl.
   - KUB today to assess for obstruction
 FEVER: Could be due to post-obstructive pneumonia, and also had a UTI
   consistent with infection.
   - Continue Abx as above to cover both pneumonia and UTI
 SUPERIOR VENA CAVA SYNDROME (SVC):  Secondary to lung mass and bulkly
   lymphadenopathy.  Will continue IV steroids to decrease inflammation.
   Swelling looks somewhat decreased since admission.
   # LUE swelling: No DVT on U/S. Likely from SVC syndrome. Con't to
   monitor.
   #.  Chronic Back pain:  Secondary to scoliosis.  Continue fentanyl
   while sedated.  Can transition back to home oxycodone once off
   sedation.
   #.  Tobacco Abuse:  Continue nicotine patch
   ICU Care
   Nutrition: TF on hold, can try to restart today
   Glycemic Control:  None
   Lines:
   Arterial Line - [**2112-11-16**] 12:00 AM
   22 Gauge - [**2112-11-16**] 01:10 PM
   PICC Line - [**2112-11-16**] 05:09 PM
   Prophylaxis:
   DVT: Will restart Lovenox
   Stress ulcer: IV pantoprazole
   VAP:
   Comments:
   Communication:  Comments: With patient and family
   Code status: DNR/DNI
   Disposition: ICU for now

2112-11-19 08:09:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - IP wanted CT neck to evaluate, also ordered CT chest for onc.  CT
   chest showed bigger right pleural effusion, stable mass and RUL
   collapse and new left infiltrate per our read
   - Rads wet read of chest CT: tumor mass similar, but has developed
   increased SVC obstruction and now with thrombus in central veins so SVC
   more or less gone and collateralizing, some in front of her trachea so
   might be bloody to give her a trach, right pleural effusion the same,
   new left lower lobe atelectasis/consolidation
   - Family meeting held at 3pm.  Plan for trach/PEG/thoracentesis on
   Monday, with chemotherapy a possible option in the distant future but
   will not address until after trach/peg.
   - Will also need thoracentesis on monday to evaluate effusion again
   - WBC 15.6 yesterday
   - KUB didn't look terribly constipated
   Allergies:
   Morphine
   Unknown;
   Sulfa (Sulfonamide Antibiotics)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Vancomycin - [**2112-11-18**] 08:00 PM
   Ciprofloxacin - [**2112-11-19**] 02:10 AM
   Cefipime - [**2112-11-19**] 03:48 AM
   Infusions:
   Fentanyl (Concentrate) - 250 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2112-11-18**] 08:00 PM
   Lorazepam (Ativan) - [**2112-11-18**] 10:34 PM
   Heparin Sodium (Prophylaxis) - [**2112-11-18**] 11:51 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2112-11-19**] 08:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.5
C (97.7
   HR: 93 (65 - 106) bpm
   BP: 104/80(93) {74/50(67) - 138/98(113)} mmHg
   RR: 16 (6 - 22) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,784 mL
                                                                    370 mL
   PO:
             TF:
   IVF:
                                                                  1,784 mL
                                                                    370 mL
   Blood products:
   Total out:
                                                                  1,478 mL
                                                                    850 mL
   Urine:
                                                                  1,253 mL
                                                                    275 mL
   NG:
                                                                    225 mL
                                                                    125 mL
   Stool:
   Drains:
   450 mL
   Balance:
                                                                    306 mL
                                                                   -480 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 350 (350 - 350) mL
   Vt (Spontaneous): 445 (20 - 579) mL
   PS : 18 cmH2O
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 60%
   RSBI: 167
   RSBI Deferred: No Spon Resp
   PIP: 26 cmH2O
   Plateau: 20 cmH2O
   SpO2: 95%
   ABG: 7.36/56/58/28/3
   Ve: 5.5 L/min
   PaO2 / FiO2: 97
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   297 K/uL
   8.8 g/dL
   148 mg/dL
   0.4 mg/dL
   28 mEq/L
   4.0 mEq/L
   23 mg/dL
   99 mEq/L
   135 mEq/L
   25.9 %
   13.0 K/uL
        [image002.jpg]
                             [**2112-11-15**]  04:20 AM
                             [**2112-11-16**]  02:11 AM
                             [**2112-11-16**]  04:14 AM
                             [**2112-11-16**]  05:03 AM
                             [**2112-11-16**]  09:56 PM
                            [**2112-11-17**]  04:13 AM
                            [**2112-11-17**]  04:26 AM
                            [**2112-11-18**]  12:14 PM
                            [**2112-11-18**]  12:47 PM
                            [**2112-11-19**]  03:04 AM
   WBC
   13.0
   12.4
   9.5
   15.6
   13.0
   Hct
   30.0
   30.5
   24.9
   28.1
   25.9
   Plt
   [**Telephone/Fax (3) 12097**]13
   297
   Cr
   0.4
   0.5
   0.5
   0.4
   TCO2
   32
   32
   34
   33
   33
   Glucose
   111
   122
   84
   104
   148
   Other labs: PT / PTT / INR:12.3/20.6/1.0, ALT / AST:39/27, Alk Phos / T
   Bili:145/0.4, Amylase / Lipase:112/42, Differential-Neuts:95.9 %,
   Lymph:1.8 %, Mono:2.1 %, Eos:0.1 %, Lactic Acid:0.8 mmol/L, Ca++:9.3
   mg/dL, Mg++:1.7 mg/dL, PO4:3.5 mg/dL
[**2112-11-17**] 8:01 pm SPUTUM      Source: Endotracheal.
   GRAM STAIN (Final [**2112-11-18**]):
      2+   (1-5 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
      2+   (1-5 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                    IN PAIRS AND CLUSTERS.
      2+   (1-5 per 1000X FIELD):   GRAM POSITIVE ROD(S).
   RESPIRATORY CULTURE (Preliminary):
[**2112-11-15**] 4:20 am SPUTUM      Source: Endotracheal.
   GRAM STAIN (Final [**2112-11-15**]):
      >25 PMNs and <10 epithelial cells/100X field.
      3+  (5-10 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                    IN PAIRS AND CLUSTERS.
      2+   (1-5 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
   RESPIRATORY CULTURE (Preliminary):
      SPARSE GROWTH Commensal Respiratory Flora.
      ENTEROBACTER AEROGENES.    MODERATE GROWTH.
         This organism may develop resistance to third generation
         cephalosporins during prolonged therapy. Therefore, isolates that
         are initially susceptible may become resistant within three to
         four days after initiation of therapy.  For serious infections,
         repeat culture and sensitivity testing may therefore be warranted
         if third generation cephalosporins were used.
      GRAM NEGATIVE ROD #2.    SPARSE GROWTH.
                              SENSITIVITIES: MIC expressed in MCG/ML
                     ____________________________________
                             ENTEROBACTER AEROGENES
                             |
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----   <=1 S
[**2112-11-16**] 6:56 pm URINE      Source: Catheter.
   URINE CULTURE (Preliminary):
      STAPHYLOCOCCUS, COAGULASE NEGATIVE.    >100,000 ORGANISMS/ML..
[**2112-11-16**] 7:00 pm BLOOD CULTURE      Source: Line-PICC.
   Blood Culture, Routine (Pending):
   KUB
 read pending
   CT neck and Chest: final read pending
   Assessment and Plan
   55 yo female with new diagnosis of non-small cell lung carcinoma
   causing SVC syndrome and respiratory distress, transferred for further
   evaluation and treatment.  Now s/p placement of stent in rt main
   bronchus and XRT x 4.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**]):  The patient has a high
   a-A gradient, likely  is secondary to shunt physiology, perfusion of
   collapsed lung of RUL and RML as well as compressive atelectasis in
   RLL.  This is likely a fixed defect and will not improve with
   recruitment trials.  Now also with likely post-obstructive pneumonia
   with fever and GNR on sputum culture, growing pan-sensitive
   enterobacter
   - Continue Vanc/Cefepime for now (cipro stoped) IV for HAP and possibly
   VAP for total 8 day course (today is day 3), can consider stopping Vanc
   today in PM if no GPC in the sputum culture
   - Will change vent to PS and send ABG
   - Continue steroids to decrease inflammation, ISS while on steroids
   - Continue fentanyl for sedation, have stopped propofol.  Can bolus
   midazolam/lorazepam if needed for anxiety or sedation.
   - Speak with IP regarding possibility of trach/peg placement on monday
   - Palliative care following
   .
   # RIJ and SVC clot: Will start heparin drip given CT [**Location (un) **] of
   thrombus in SVC.  PICC line in SVC continues to work, and will leave in
   place for now.
   .
 NAUSEA/VOMITING: Still having drainage out of OG tube, but
   nausea/vomiting resolved.  Feel likely is related to medication effect
   or radiation gastritis. Amylase high, may be due to secretions from
   oropharynx, lipase wnl.
   - will stop OG suction and see if nausea/vomiting resumes
   - standing reglan, zofran prn
 CANCER (MALIGNANT NEOPLASM), LUNG NSCLC:  New diagnosis, now s/p 4
   treatments of XRT since [**11-11**].  Heme/Onc also following.  Initial
   metastatic workup has been negative with negative Abd and Brain imaging
   but has likely positive lymph nodes based on OSH imaging
   - XRT complete
   - Heme/onc following, will touch base re final read of Chest CT
   - SW following
   - Palliative care following
   # CONSTIPATION: Still with constipation and some small episodes of
   diarrhea.  Likely is related to high doses of fentanyl.
   - bowel regimen with senna, colace, bisacodyl, miralax
 FEVER: Could be due to post-obstructive pneumonia, and also had a UTI
   consistent with infection.
   - Continue Abx as above to cover both pneumonia and UTI
 SUPERIOR VENA CAVA SYNDROME (SVC):  Secondary to lung mass and bulkly
   lymphadenopathy.  Will continue IV steroids to decrease inflammation.
   Swelling looks somewhat decreased since admission.
   # LUE swelling: Likely from SVC syndrome and thrombi. Con't to monitor.
   #.  Chronic Back pain:  Secondary to scoliosis.  Continue fentanyl
   while sedated.  Can transition back to home oxycodone once off
   sedation.
   #.  Tobacco Abuse:  Continue nicotine patch
   ICU Care
   Nutrition: TF on hold for now, plan for PEG monday
   Glycemic Control:  None
   Lines:
   Arterial Line - [**2112-11-16**] 12:00 AM
   22 Gauge - [**2112-11-16**] 01:10 PM
   PICC Line - [**2112-11-16**] 05:09 PM
   Prophylaxis:
   DVT: Heparin drip
   Stress ulcer: IV PPI
   VAP:
   Comments: bowel regimen on senna, colace, bisacodyl
   Communication:  Comments: Patient and family
   Code status: DNR/DNI
   Disposition: ICU for now

2112-11-20 07:15:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - IP attending says that she will need open trach on monday.  he
   emailed a thoracic surgeon to have her put on OR schedule for monday
   for trach, peg, and thoracentesis.
   - Change to pressure support: didn't get ABG because A line not drawing
   back but good sats. Then back to MMV with backup rate of 16 (set by
   minute ventilation, with backup RR.  Goal MV 6 -> 3.5 overnight to see
   what she does). ABG: 7.36/56/127  (FiO2%:60; Rate:/14; TV:350; PEEP:5)
   -started on heparin drip for SVR and IJ clots
   -NGT put to clamp -> no nausea or vomiting.
   -vanc and cipro stopped - > sputum growing pan sensitive enterobacter
   Allergies:
   Morphine
   Unknown;
   Sulfa (Sulfonamide Antibiotics)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Vancomycin - [**2112-11-19**] 08:00 PM
   Ciprofloxacin - [**2112-11-20**] 12:34 AM
   Cefipime - [**2112-11-20**] 04:00 AM
   Infusions:
   Heparin Sodium - 850 units/hour
   Fentanyl (Concentrate) - 250 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2112-11-19**] 08:08 AM
   Pantoprazole (Protonix) - [**2112-11-19**] 08:00 PM
   Lorazepam (Ativan) - [**2112-11-20**] 05:45 AM
   Other medications:
   Bisacodyl 4. CefePIME 5. Chlorhexidine Gluconate 0.12% Oral Rinse 6.
   Docusate Sodium (Liquid)
   7. Fentanyl Citrate 8. Fentanyl Citrate 9. Heparin Flush (10 units/ml)
   10. Heparin 11. Lorazepam
   12. MethylPREDNISolone Sodium Succ 13. Metoclopramide 14. Nicotine
   Patch 15. Ondansetron 16. Pantoprazole
   17. Polyethylene Glycol 18. Senna 19. Sodium Chloride 0.9% Flush
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems: no pain, no N/V
   Flowsheet Data as of  [**2112-11-20**] 07:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.7
C (98
   HR: 109 (72 - 109) bpm
   BP: 148/74(96) {88/50(63) - 170/94(121)} mmHg
   RR: 23 (8 - 23) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 51.5 kg (admission): 46.8 kg
             Total In:
                                                                  1,512 mL
                                                                    412 mL
   PO:
             TF:
   IVF:
                                                                  1,512 mL
                                                                    412 mL
   Blood products:
   Total out:
                                                                  1,635 mL
                                                                    275 mL
   Urine:
                                                                    860 mL
                                                                    275 mL
   NG:
                                                                    325 mL
   Stool:
   Drains:
                                                                    450 mL
   Balance:
                                                                   -123 mL
                                                                    137 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 350 (350 - 350) mL
   Vt (Spontaneous): 272 (245 - 501) mL
   PS : 18 cmH2O
   RR (Set): 10
   RR (Spontaneous): 27
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 48
   PIP: 24 cmH2O
   Plateau: 18 cmH2O
   SpO2: 99%
   ABG: 7.36/56/127/29/4
   Ve: 10.9 L/min
   PaO2 / FiO2: 254
   Physical Examination
   Gen: sleeping, easily aroused, follows commands
   HEENT: erythema/edema right neck
   CV: rrr nl s1/s2 no mrg
   Pulm: rhonchorus b/l
   Abd: +BS, soft NTND
   Ext: no edema
   Labs / Radiology
   388 K/uL
   9.3 g/dL
   106 mg/dL
   0.5 mg/dL
   29 mEq/L
   3.7 mEq/L
   21 mg/dL
   99 mEq/L
   137 mEq/L
   28.1 %
   15.6 K/uL
        [image002.jpg]
                             [**2112-11-16**]  04:14 AM
                             [**2112-11-16**]  05:03 AM
                             [**2112-11-16**]  09:56 PM
                            [**2112-11-17**]  04:13 AM
                            [**2112-11-17**]  04:26 AM
                            [**2112-11-18**]  12:14 PM
                            [**2112-11-18**]  12:47 PM
                            [**2112-11-19**]  03:04 AM
                            [**2112-11-20**]  02:29 AM
                            [**2112-11-20**]  05:07 AM
   WBC
   12.4
   9.5
   15.6
   13.0
   15.6
   Hct
   30.5
   24.9
   28.1
   25.9
   28.1
   Plt
   490
   347
   413
   297
   388
   Cr
   0.4
   0.5
   0.5
   0.4
   0.5
   TCO2
   32
   34
   33
   33
   33
   Glucose
   122
   84
   104
   148
   106
   Other labs: PT / PTT / INR:12.3/80.6/1.0, ALT / AST:39/27, Alk Phos / T
   Bili:145/0.4, Amylase / Lipase:112/42, Differential-Neuts:94.7 %,
   Lymph:2.4 %, Mono:2.7 %, Eos:0.2 %, Lactic Acid:0.8 mmol/L, Ca++:9.2
   mg/dL, Mg++:1.7 mg/dL, PO4:3.2 mg/dL
   Imaging: CXR:
   CT neck [**11-18**]:
   1. Hypodense lesions of bilateral thyroid lobes which may be secondary
   to
   venous ischemia, infection or inflammation.
   2. Right pulmonary and mediastinal mass is once again noted with
   occlusion of
   the superior vena cava and the right internal jugular vein. There is
   now
   occlusion of hte left IJV distally.
   3. Right-sided pleural effusion and collapsed left lower lobe of the
   lung is
   noted. Please see details in the accompanying CT of the chest report.
   chest pending
   Microbiology: [**11-17**] sputum ENTEROBACTER AEROGENES
   [**11-16**] blood pending
   [**11-16**] urine
   STAPHYLOCOCCUS, COAGULASE NEGATIVE
GENTAMICIN------------ <=0.5 S
LEVOFLOXACIN----------   =>8 R
NITROFURANTOIN--------  <=16 S
OXACILLIN-------------<=0.25 S
TETRACYCLINE----------     2 S
VANCOMYCIN------------     2 S
   [**11-15**] sputum
                                ENTEROBACTER AEROGENES
                                |
   CEFEPIME--------------   <=1 S
   CEFTAZIDIME-----------   <=1 S
   CEFTRIAXONE-----------   <=1 S
   CIPROFLOXACIN---------<=0.25 S
   GENTAMICIN------------   <=1 S
   MEROPENEM-------------<=0.25 S
   PIPERACILLIN/TAZO-----   <=4 S
   TOBRAMYCIN------------   <=1 S
   TRIMETHOPRIM/SULFA----   <=1 S
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 CANCER (MALIGNANT NEOPLASM), LUNG
   NSCLC
 NAUSEA / VOMITING
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 SUPERIOR VENA CAVA SYNDROME (SVC)
 CONSTIPATION (OBSTIPATION, FOS)
 TOBACCO USE, CURRENT
   55 yo female with new diagnosis of non-small cell lung carcinoma
   causing SVC syndrome and respiratory distress, transferred for further
   evaluation and treatment.  Now s/p placement of stent in rt main
   bronchus and XRT x 4.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**]):  The patient has a high
   a-A gradient, likely  is secondary to shunt physiology, perfusion of
   collapsed lung of RUL and RML as well as compressive atelectasis in
   RLL.  This is likely a fixed defect and will not improve with
   recruitment trials.  Now also with likely post-obstructive pneumonia
   with fever and GNR on sputum culture, growing pan-sensitive
   enterobacter
   - Continue Cefepime for now (cipro and Vanc stoped) IV for HAP and
   possibly VAP for total 8 day course (today is day 4)
   - continue current ventilator settings
   - Continue steroids to decrease inflammation, ISS not needed as blood
   glucose WNL
   - Continue fentanyl for sedation, have stopped propofol.  Can bolus
   midazolam/lorazepam if needed for anxiety or sedation.
   -trache, PEG Monday, also thoracentesis at that time, NPO after m/n
   - Palliative care following
   -chanted settings this am, repeat ABG in approx 1 hour
   .
   # RIJ and SVC clot: CT [**Location (un) **] of thrombus in SVC.  PICC line in SVC
   continues to work, and will leave in place for now.
   -continue Heparin gtt
   -confirm OR time to determine when should be shut off
   -check TSH/fT4 given ischemic findings of thyroid
   .
 FEVER: Could be due to post-obstructive pneumonia, and also had a UTI
   consistent with infection.
   - change to Ceftriaxone instead of Cefepime since covers enterobacter
   and coag neg staph
   - with increased WBC, resent blood, urine, sputum ctxs
 NAUSEA/VOMITING: Still having drainage out of OG tube, but
   nausea/vomiting resolved.  Feel likely is related to medication effect
   or radiation gastritis. Amylase high, may be due to secretions from
   oropharynx, lipase wnl.
   - restart TFs as N/V resolved, then NPO after M/N
   - standing reglan, zofran prn
 CANCER (MALIGNANT NEOPLASM), LUNG NSCLC:  New diagnosis, now s/p 4
   treatments of XRT since [**11-11**].  Heme/Onc also following.  Initial
   metastatic workup has been negative with negative Abd and Brain imaging
   but has likely positive lymph nodes based on OSH imaging
   - XRT complete
   - Heme/onc following, will touch base re final read of Chest CT
   - SW following
   - Palliative care following
   # CONSTIPATION: Still with constipation and some small episodes of
   diarrhea.  Likely is related to high doses of fentanyl.
   - bowel regimen with senna, colace, bisacodyl, miralax
 SUPERIOR VENA CAVA SYNDROME (SVC):  Secondary to lung mass and bulkly
   lymphadenopathy.  Will continue IV steroids to decrease inflammation.
   Swelling looks somewhat decreased since admission.
   # LUE swelling: Likely from SVC syndrome and thrombi. Con't to monitor.
   #.  Chronic Back pain:  Secondary to scoliosis.  Continue fentanyl
   while sedated.  Can transition back to home oxycodone once off
   sedation.
   #.  Tobacco Abuse:  Continue nicotine patch
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2112-11-16**] 12:00 AM
   22 Gauge - [**2112-11-16**] 01:10 PM
   PICC Line - [**2112-11-16**] 05:09 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: husband is current HCP however now that
   patient responsive it seems that the care she wants is more aggressive
   than the care he has stated that she wants.  Will talk to patient when
   more lucid and will readdress possibility of daughter becoming HCP.
   [**Name (NI) 36**] status: DNR
   Disposition: ICU for now

2112-11-21 07:26:00 Physician Resident Progress Note
TITLE: [**Hospital Unit Name 1**] Resident Progress Note
   Chief Complaint: NSCLC, respiratory distress
   24 Hour Events:
   - sent cultures due to increased WBC
   - restarted tube feeds,  but held at midnight pending trache/PEG today
   - heparin gtt turned off at midnight for OR
   - changed to Ceftriaxone from Cefepime
   - changed to PS 15/5 fi02 50%, ABG: 7.41/50/95
   - decreased PS to 10 this am due to apnea with hope for increased RR.
   Allergies:
   Morphine
   Unknown;
   Sulfa (Sulfonamide Antibiotics)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Vancomycin - [**2112-11-19**] 08:00 PM
   Ciprofloxacin - [**2112-11-20**] 12:34 AM
   Cefipime - [**2112-11-20**] 04:00 AM
   Ceftriaxone - [**2112-11-20**] 02:19 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2112-11-20**] 08:00 PM
   Lorazepam (Ativan) - [**2112-11-21**] 03:42 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2112-11-21**] 07:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.2
C (97.2
   HR: 102 (76 - 113) bpm
   BP: 154/80(105) {106/59(76) - 194/97(131)} mmHg
   RR: 15 (6 - 24) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 51.5 kg (admission): 46.8 kg
             Total In:
                                                                  1,318 mL
                                                                    104 mL
   PO:
             TF:
                                                                    184 mL
   IVF:
                                                                    924 mL
                                                                    104 mL
   Blood products:
   Total out:
                                                                  1,293 mL
                                                                    560 mL
   Urine:
                                                                    943 mL
                                                                    410 mL
   NG:
   Stool:
   Drains:
                                                                    350 mL
                                                                    150 mL
   Balance:
                                                                     25 mL
                                                                   -456 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 350 (350 - 350) mL
   Vt (Spontaneous): 468 (400 - 678) mL
   PS : 10 cmH2O
   RR (Set): 10
   RR (Spontaneous): 9
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 21 cmH2O
   SpO2: 99%
   ABG: 7.43/50/131/31/8 at 6am
   Ve: 3.4 L/min
   PaO2 / FiO2: 262
   Physical Examination
   Gen: sleeping, easily aroused, follows commands
   HEENT: facial edema
   CV: rrr nl s1/s2 no mrg
   Pulm: rhonchorus b/l
   Abd: +BS, soft NTND
   Ext: upper extremity edema
   Labs / Radiology
   387 K/uL
   9.3 g/dL
   123 mg/dL
   0.5 mg/dL
   31 mEq/L
   4.4 mEq/L
   17 mg/dL
   97 mEq/L
   134 mEq/L
   28.2 %
   16.0 K/uL
        [image002.jpg]
                            [**2112-11-17**]  04:13 AM
                            [**2112-11-17**]  04:26 AM
                            [**2112-11-18**]  12:14 PM
                            [**2112-11-18**]  12:47 PM
                            [**2112-11-19**]  03:04 AM
                            [**2112-11-20**]  02:29 AM
                            [**2112-11-20**]  05:07 AM
                            [**2112-11-20**]  02:43 PM
                            [**2112-11-21**]  03:25 AM
                            [**2112-11-21**]  06:01 AM
   WBC
   9.5
   15.6
   13.0
   15.6
   16.0
   Hct
   24.9
   28.1
   25.9
   28.1
   28.2
   Plt
   [**Telephone/Fax (3) 12139**]88
   387
   Cr
   0.5
   0.5
   0.4
   0.5
   0.5
   TCO2
   33
   33
   33
   33
   34
   Glucose
   84
   104
   148
   106
   123
   Other labs: PT / PTT / INR:14.6/28.4/1.3, ALT / AST:39/27, Alk Phos / T
   Bili:145/0.4, Amylase / Lipase:112/42, Differential-Neuts:94.7 %,
   Lymph:2.4 %, Mono:2.7 %, Eos:0.2 %, Lactic Acid:0.8 mmol/L, Albumin:3.2
   g/dL, Ca++:9.6 mg/dL, Mg++:2.2 mg/dL, PO4:3.1 mg/dL
   TSH 2.9
   Free T4 1.3
   Albumin 3.2
[**2112-11-20**] 12:14 pm SPUTUM      Source: Endotracheal.
   GRAM STAIN (Final [**2112-11-20**]):
      [**10-2**] PMNs and <10 epithelial cells/100X field.
      NO MICROORGANISMS SEEN.
   RESPIRATORY CULTURE (Preliminary):
   [**11-20**] Urine cx pending
   [**11-20**] Blood cx pending
   CXR today in OMR
   CT Chest final read still pending
   Assessment and Plan
   55 yo female with new diagnosis of non-small cell lung carcinoma
   causing SVC syndrome and respiratory distress, transferred for further
   evaluation and treatment.  Now s/p placement of stent in right main
   bronchus and XRT x 4.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**]):  The patient has a high
   a-A gradient, likely is secondary to shunt physiology, perfusion of
   collapsed lung of RUL and RML as well as compressive atelectasis in
   RLL.  This is likely a fixed defect and will not improve with
   recruitment trials.  Now also with likely post-obstructive pneumonia
   with fever and GNR on sputum culture, growing pan-sensitive
   enterobacter.
   - Have switched to ceftriaxone, today is day 5 of 8 day course (have
   stopped Cipro and Vanco)
   - Trach/PEG today with thoracentesis
   - FU thoracentesis results for cytology
   - Will readdress chemotherapy options after trach/PEG
   - Continue current ventilator settings, will try to wean tomorrow after
   procedure, may need increased FiO2 peri-procedurally today
   - Continue steroids to decrease inflammation, ISS not needed as blood
   glucose WNL (methylprednisolone 40mg IV q12h)
   - Continue fentanyl for sedation.  Can bolus midazolam/lorazepam if
   needed for anxiety or sedation.
   - Palliative care following, will ask them to come help with placement
   tomorrow
   # RIJ and SVC clot: CT [**Location (un) **] of thrombus in SVC.  PICC line in SVC
   continues to work, and will leave in place for now.
   - Heparin gtt on hold for now, will continue post-op
 FEVER: Could be due to post-obstructive pneumonia, and also had a UTI
   consistent with infection.
   - changed to Ceftriaxone instead of Cefepime since covers enterobacter
   and coag neg staph
   - WBC continues to increase
   - Send C Diff
 NAUSEA/VOMITING: Still having drainage out of OG tube, but
   nausea/vomiting resolved.  Feel likely is related to medication effect
   or radiation gastritis. Amylase high, may be due to secretions from
   oropharynx, lipase wnl.
   - restart TFs after OR
   - standing reglan, zofran prn
 CANCER (MALIGNANT NEOPLASM), LUNG NSCLC:  New diagnosis, now s/p 4
   treatments of XRT since [**11-11**].  Heme/Onc also following.  Initial
   metastatic workup has been negative with negative Abd and Brain imaging
   but has likely positive lymph nodes based on OSH imaging
   - XRT complete
   - Heme/onc following
   - SW following
   - Palliative care following
   # CONSTIPATION: Still with constipation and some small episodes of
   diarrhea.  Likely is related to high doses of fentanyl.
   - bowel regimen with senna, colace, bisacodyl, miralax
   - C Diff as above
 SUPERIOR VENA CAVA SYNDROME (SVC):  Secondary to lung mass and bulky
   lymphadenopathy.  Will continue IV steroids to decrease inflammation.
   Swelling looks somewhat decreased since admission.
   #.  SOCIAL ISSUES:  Some concern that husband is not coping well with
   wife
s diagnosis.  He is currently health care proxy but has multiple
   times expressed his feelings that he feels as though his wife might as
   well die now, which is not in keeping with her current wishes.
   - SW following, appreciate their guidance
   - Will discuss with daughters and patient that husband may not be
   coping well and may not make decisions in the best interest of the
   patient
   ICU Care
   Nutrition: Tube feeds, on holding for OR
   Glycemic Control:  None
   Lines: Arterial Line - [**2112-11-16**] 12:00 AM
   22 Gauge - [**2112-11-16**] 01:10 PM
   PICC Line - [**2112-11-16**] 05:09 PM
   Prophylaxis:
   DVT: Heparin gtt, on hold for now for OR
   Stress ulcer: IV Pantoprazole
 will switch to po today
   VAP:
   Comments:
   Communication:  Comments: With patient at this time, husband is HCP
   [**Name (NI) 36**] status: DNR/DNI
   Disposition: ICU for now

2112-11-22 07:10:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PEG INSERTION - At [**2112-11-21**] 02:52 PM
 THORACENTESIS - At [**2112-11-21**] 02:52 PM
 OPEN TRACHEOSTOMY - At [**2112-11-21**] 02:53 PM
   - Trach/PEG/[**Female First Name (un) 217**] went well.  1200cc out of right lung, looked
   transudative.  Heparin gtt to be started in 6 hrs without bolus (10pm),
   urgent CXR ordered, PEG tube for meds now, then start feeds after 24
   hours (4pm [**11-22**]), keep it to gravity for now.
   - Social work met with daughter [**Name (NI) 376**].  [**Name2 (NI) 171**] is for family to encourage
   patient's husband to talk with therapist, have involved his mother and
   sister.  [**Name (NI) 11679**] her the health care proxy form to discuss with her
   mother.  [**Name (NI) 133**] also ask the palliative care social worker to speak with
   husband, as our social worker felt he may be more trusting of someone
   not from our team.
   - Case management will begin looking into possible facilities
   - Will RSBI in the morning if awake
   - Onc recs: Send pleural fluid for cytology, will follow
   - Gave percocet for pain post-trach, had to put restraints on because
   pulling at the trach
   This AM: Pt reports feeling
fine.
 C/o discomfort from trach collar
   and peg tub sites.  Other wise denies pain, reports that her breathing
   is comfortable and has no new issues.
   Allergies:
   Morphine
   Unknown;
   Sulfa (Sulfonamide Antibiotics)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Vancomycin - [**2112-11-19**] 08:00 PM
   Ciprofloxacin - [**2112-11-20**] 12:34 AM
   Cefipime - [**2112-11-20**] 04:00 AM
   Ceftriaxone - [**2112-11-20**] 02:19 PM
   Infusions:
   Heparin Sodium - 850 units/hour
   Fentanyl (Concentrate) - 250 mcg/hour
   Other ICU medications:
   Heparin Sodium - [**2112-11-22**] 04:17 AM
   Lorazepam (Ativan) - [**2112-11-22**] 04:26 AM
   Fentanyl - [**2112-11-22**] 05:23 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2112-11-22**] 07:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.2
C (97.2
   HR: 112 (81 - 120) bpm
   BP: 171/79(109) {86/44(58) - 171/86(113)} mmHg
   RR: 14 (0 - 21) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 51.5 kg (admission): 46.8 kg
   Height: 62 Inch
             Total In:
                                                                    959 mL
                                                                    175 mL
   PO:
             TF:
   IVF:
                                                                    879 mL
                                                                    175 mL
   Blood products:
   Total out:
                                                                  2,345 mL
                                                                    635 mL
   Urine:
                                                                  1,095 mL
                                                                    435 mL
   NG:
   200 mL
   Stool:
   Drains:
                                                                  1,250 mL
   Balance:
                                                                 -1,386 mL
                                                                   -460 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 400 (400 - 450) mL
   Vt (Spontaneous): 375 (375 - 588) mL
   PS : 12 cmH2O
   RR (Set): 8
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 62
   PIP: 17 cmH2O
   Plateau: 23 cmH2O
   SpO2: 98%
   ABG: 7.48/43/122/29/8
   Ve: 7.1 L/min
   PaO2 / FiO2: 244
   Switched to MMV mode overnight for persistent low MV to 2L/minute
   Physical Examination
   Gen: Awake and alert, lying comfortably in bed, NAD
   HEENT: NCAT, trach in place, OP clear, MMM
   CV: RRR, S1, S2, no m/r/g
   Pulm: scattered rhonchi anteriorily
   Abd: soft, NT, ND.  PEG tube in place, non erythematous and
   nonecchymotic
   Extrem: 1+ edema of UE b/l (improved from prior exams), LE no c/c/e, 2+
   pulses throughout
   Labs / Radiology
   327 K/uL
   8.7 g/dL
   116 mg/dL
   0.5 mg/dL
   29 mEq/L
   4.0 mEq/L
   14 mg/dL
   96 mEq/L
   136 mEq/L
   26.3 %
   13.8 K/uL
                            [**2112-11-18**]  12:47 PM
                            [**2112-11-19**]  03:04 AM
                            [**2112-11-20**]  02:29 AM
                            [**2112-11-20**]  05:07 AM
                            [**2112-11-20**]  02:43 PM
                            [**2112-11-21**]  03:25 AM
                            [**2112-11-21**]  06:01 AM
                            [**2112-11-21**]  06:28 PM
                            [**2112-11-22**]  03:19 AM
                            [**2112-11-22**]  03:35 AM
   WBC
   13.0
   15.6
   16.0
   13.8
   Hct
   25.9
   28.1
   28.2
   26.3
   Plt
   297
   388
   387
   327
   Cr
   0.4
   0.5
   0.5
   0.5
   TCO2
   33
   33
   33
   34
   33
   33
   Glucose
   148
   106
   123
   116
   Other labs: PT / PTT / INR:15.9/43.6/1.4, ALT / AST:39/27, Alk Phos / T
   Bili:145/0.4, Amylase / Lipase:112/42, Differential-Neuts:94.7 %,
   Lymph:2.4 %, Mono:2.7 %, Eos:0.2 %, Lactic Acid:0.8 mmol/L, Albumin:3.2
   g/dL, LDH:280 IU/L, Ca++:9.1 mg/dL, Mg++:1.9 mg/dL, PO4:2.9 mg/dL
   Pleural fluid
   PLEURAL ANALYSIS
                                     WBC
                                     RBC
                                    Polys
                                   Lymphs
                                    Monos
                                    Atyps
                                   Plasma
                                    Meso
                                    Macro
                                    Other
   [1][**2112-11-21**] 03:20PM
                                     49*
                                     18*
                                     17*
                                     51*
                                      0
                                     1*
                                    5*[1]
                                     5*
                                     19*
                                     2*
   PLEURAL CHEMISTRY
                                   TotProt
                                   Glucose
                                   LD(LDH)
                                   Cholest
   [2][**2112-11-21**] 03:20PM
                                     2.6
                                     114
                                     169
                                     60
   pH 7.49
[**2112-11-21**] 3:20 pm PLEURAL FLUID      RIGHT.
   GRAM STAIN (Final [**2112-11-21**]):
      NO POLYMORPHONUCLEAR LEUKOCYTES SEEN.
      NO MICROORGANISMS SEEN.
   FLUID CULTURE (Preliminary):
   ANAEROBIC CULTURE (Preliminary):
[**11-20**] Urine Culture:   YEAST.    >100,000 ORGANISMS/ML..
[**2112-11-20**]   GRAM STAIN (Final [**2112-11-20**]):
      [**10-2**] PMNs and <10 epithelial cells/100X field.
      NO MICROORGANISMS SEEN.
   RESPIRATORY CULTURE (Preliminary):
      RARE GROWTH Commensal Respiratory Flora.
      YEAST.    SPARSE GROWTH.
      GRAM NEGATIVE ROD(S).    RARE GROWTH.
   [**11-15**] and [**11-17**] Sputum growing pan sensitive enterobacter
   CXR [**11-21**] PM: Shows resolution of rt sided effusion
   Assessment and Plan
   55 yo female with new diagnosis of non-small cell lung carcinoma
   causing SVC syndrome and respiratory distress, transferred for further
   evaluation and treatment.  Now s/p placement of stent in right main
   bronchus and XRT x 4.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**]):  The patient has a high
   a-A gradient, likely is secondary to shunt physiology, perfusion of
   collapsed lung of RUL and RML as well as compressive atelectasis in
   RLL.  This is likely a fixed defect and will not improve with
   recruitment trials.  Now also with likely post-obstructive pneumonia
   with fever and GNR on sputum culture, growing pan-sensitive
   enterobacter.  Pt now s/p trach and peg.
   - Have switched to ceftriaxone (to cover coag neg staph and
   enterobacter), today is day 6 of 8 day course (have stopped Cipro and
   Vanco)
   - FU thoracentesis results for cytology
   - Will readdress chemotherapy options after trach/PEG
   - Will try to wean vent today -> will do trial of trach with f/u ABG on
   collar if patient tolerates.
   - Continue steroids to decrease inflammation, ISS not needed as blood
   glucose WNL (methylprednisolone 40mg IV q12h)
   - Continue fentanyl for sedation -> will change to PO dosing now that
   patient with PEG
   - Palliative care following, will ask them to come help with placement
   # RIJ and SVC clot: CT [**Location (un) **] of thrombus in SVC.  PICC line in SVC
   continues to work, and will leave in place for now.
   - Heparin gtt restarted.  Will transition to lovenox today.
 FEVER: Low grade fever to 99 this AM.  Could be due to
   post-obstructive pneumonia, and also had a UTI consistent with
   infection.  WBC trending down today.
   - Continue Ceftriaxone instead of Cefepime since covers enterobacter
   and coag neg staph
   - Send C Diff if stools.
   - change foley today as culture shows yeast
 NAUSEA/VOMITING: Still having drainage out of OG tube, but
   nausea/vomiting resolved.  Feel likely is related to medication effect
   or radiation gastritis. Amylase high, may be due to secretions from
   oropharynx, lipase wnl.
   - start TF through PEG in PM
   - standing reglan, zofran prn
   - check ecg given standing reglan
 CANCER (MALIGNANT NEOPLASM), LUNG NSCLC:  New diagnosis, now s/p 4
   treatments of XRT since [**11-11**].  Heme/Onc also following.  Initial
   metastatic workup has been negative with negative Abd and Brain imaging
   but has likely positive lymph nodes based on OSH imaging
   - XRT complete
   - Heme/onc following; will discuss options for chemo
   - SW following
   - Palliative care following
   # CONSTIPATION: Still with constipation and some small episodes of
   diarrhea.  Likely is related to high doses of fentanyl.
   - bowel regimen with senna, colace, bisacodyl, miralax
   - C Diff as above
 SUPERIOR VENA CAVA SYNDROME (SVC):  Secondary to lung mass and bulky
   lymphadenopathy.  Will continue IV steroids to decrease inflammation.
   Swelling looks somewhat decreased since admission.
   #.  SOCIAL ISSUES:  Some concern that husband is not coping well with
   wife
s diagnosis.  He is currently health care proxy but has multiple
   times expressed his feelings that he feels as though his wife might as
   well die now, which is not in keeping with her current wishes.
   - SW following, appreciate their guidance
   - Will discuss with daughters and patient that husband may not be
   coping well and may not make decisions in the best interest of the
   patient
   ICU Care
   Nutrition: Tube feeds, Replete with fiber Full strength, S&S eval today
   Glycemic Control:  None
   Lines:
   Arterial Line - [**2112-11-16**] 12:00 AM
   PICC Line - [**2112-11-16**] 05:09 PM
   Prophylaxis:
   DVT: heparin gtt
   Stress ulcer: PPI
   VAP:
   Comments: Pain control with fentanyl, bowel regimen as above
   Communication:  Comments: Patient, husband and [**Name2 (NI) 12156**]
   Code status: DNR/DNI
   Disposition: ICU, case management looking into placement
References
   1. JavaScript:parent.POPUP(self,%22_WEBTAG=_1%22);
   2. JavaScript:parent.POPUP(self,%22_WEBTAG=_2%22);

2112-11-23 07:02:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2112-11-22**] 08:30 PM
   -Changed most meds to PO
   -tolerated trach collar
   -fam mtg: wants home with hospice at daughters house, will f/u with onc
   as outpatient if doing well for possible chemo in future, although not
   any time soon.  Also does not want to be put back on ventilator.
   (however, daughter saying she felt patient is still confused from pain
   meds and benzos overnight and is not comfortable with this decision.)
   -thoracic surgery stopped by: sent biopsies of stomach (what looked
   like possible metastatic foci).  trach sutures can stay in [**6-17**] days.
   -big hct drop this AM -> asked nurse to repeat and guaiac stool
   Allergies:
   Morphine
   Unknown;
   Sulfa (Sulfonamide Antibiotics)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Ceftriaxone - [**2112-11-22**] 04:00 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Albuterol Inhaler 5. Bisacodyl 6. CeftriaXONE 7. Chlorhexidine
   Gluconate 0.12% Oral Rinse
   8. Dexamethasone 9. Docusate Sodium (Liquid) 10. Enoxaparin Sodium 11.
   Fentanyl Citrate 12. Heparin Flush (10 units/ml)
   13. Heparin 14. Ipratropium Bromide MDI 15. Lansoprazole Oral
   Disintegrating Tab 16. Lorazepam 17. Magnesium Sulfate
   18. Metoclopramide 19. Nicotine Patch 20. Ondansetron 21. OxycoDONE
   (Immediate Release) 22. Polyethylene Glycol
   23. Senna 24. Sodium Chloride 0.9% Flush 25. Sodium Chloride 0.9% Flush
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems: pain controlled when she gets meds, breathing feels
   stable, still with pain around medial side of peg tube
   Flowsheet Data as of  [**2112-11-23**] 06:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.4
C (97.5
   HR: 102 (89 - 116) bpm
   BP: 127/67(79) {127/67(79) - 138/72(87)} mmHg
   RR: 12 (7 - 23) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 51.5 kg (admission): 46.8 kg
   Height: 62 Inch
             Total In:
                                                                    729 mL
                                                                    189 mL
   PO:
             TF:
                                                                    143 mL
                                                                    154 mL
   IVF:
                                                                    586 mL
                                                                     36 mL
   Blood products:
   Total out:
                                                                  1,223 mL
                                                                    150 mL
   Urine:
                                                                  1,023 mL
                                                                    150 mL
   NG:
                                                                    200 mL
   Stool:
   Drains:
   Balance:
                                                                   -494 mL
                                                                     39 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: Standby
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 322 (322 - 378) mL
   PS : 12 cmH2O
   RR (Set): 8
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 0 cmH2O
   SpO2: 97%
   ABG: ///36/
   Ve: 2.5 L/min
   Physical Examination
   Gen: NAD
   CV: rrr nl s1/s2 no mrg
   Pulm: rhonchorous on right, but moving good air
   Abd: +BS, no erythema/drainage out of PEG (later on exam had maroon
   blood in tube), TTP around PEG site, no rebound or guarding
   Ext: no edema, warm, good pulses
   Labs / Radiology
   302 K/uL
   7.1 g/dL
   143 mg/dL
   0.4 mg/dL
   36 mEq/L
   3.5 mEq/L
   27 mg/dL
   96 mEq/L
   138 mEq/L
   20.8 %
   11.1 K/uL
        [image002.jpg]
                            [**2112-11-19**]  03:04 AM
                            [**2112-11-20**]  02:29 AM
                            [**2112-11-20**]  05:07 AM
                            [**2112-11-20**]  02:43 PM
                            [**2112-11-21**]  03:25 AM
                            [**2112-11-21**]  06:01 AM
                            [**2112-11-21**]  06:28 PM
                            [**2112-11-22**]  03:19 AM
                            [**2112-11-22**]  03:35 AM
                            [**2112-11-23**]  04:36 AM
   WBC
   13.0
   15.6
   16.0
   13.8
   11.1
   Hct
   25.9
   28.1
   28.2
   26.3
   20.8
   Plt
   297
   388
   387
   327
   302
   Cr
   0.4
   0.5
   0.5
   0.5
   0.4
   TCO2
   33
   33
   34
   33
   33
   Glucose
   148
   106
   123
   116
   143
   Other labs: PT / PTT / INR:19.9/27.4/1.8, Ca++:8.4 mg/dL, Mg++:2.2
   mg/dL, PO4:2.8 mg/dL
   Pleural fluid [**11-21**] prelim neg
   Sputum [**11-20**]
      RARE GROWTH Commensal Respiratory Flora.
      YEAST.    SPARSE GROWTH.
      GRAM NEGATIVE ROD(S).    RARE GROWTH.
   Sputum [**11-17**]
  ENTEROBACTER AEROGENES.
   Sputum [**11-15**]
        ENTEROBACTER AEROGENES.
   Urine [**11-20**]
      YEAST.    >100,000 ORGANISMS/ML..
                  STAPHYLOCOCCUS SPECIES.    ~4000/ML.
   Urine [**11-16**] coag neg staph
   Blood 12/13 pending
   Blood 12/9 negative
   Assessment and Plan
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 ANXIETY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 CANCER (MALIGNANT NEOPLASM), LUNG
   NSCLC
 NAUSEA / VOMITING
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 SUPERIOR VENA CAVA SYNDROME (SVC)
 CONSTIPATION (OBSTIPATION, FOS)
 TOBACCO USE, CURRENT
   55 yo female with new diagnosis of non-small cell lung carcinoma
   causing SVC syndrome and respiratory distress, transferred for further
   evaluation and treatment.  Now s/p placement of stent in right main
   bronchus and XRT x 4.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**]):  The patient has a high
   a-A gradient, likely is secondary to shunt physiology, perfusion of
   collapsed lung of RUL and RML as well as compressive atelectasis in
   RLL.  This is likely a fixed defect and will not improve with
   recruitment trials.  Now also with likely post-obstructive pneumonia
   with fever and GNR on sputum culture, growing pan-sensitive
   enterobacter.  Pt now s/p trach and peg.
   - Have switched to ceftriaxone (to cover coag neg staph and
   enterobacter), today is day 7of 8 day course (have stopped Cipro and
   Vanco)
   - FU thoracentesis results for cytology
   - continue trachemask.  Pt. has stated clearly would not want to be
   hooked up back to machine.
   - Continue steroids to decrease inflammation, ISS not needed as blood
   glucose WNL
   - touch base with IP in AM about possibility of pleurex catheter and
   whether they think it would be useful in this case
   #  Hct drop: concerning for bleed around PEG site, especially in the
   setting of pain with  lovenox and possible stomach mets with elevated
   BUN.  Pt. now with blood out of PEG tube.
   -recheck, add on LFTs: WNL
   -active T&S
   - consult GI- patient considering whether she wants endoscopy
   -transfuse 1U and put in for post transfusion hct
   # RIJ and SVC clot: CT [**Location (un) **] of thrombus in SVC.  PICC line in SVC
   continues to work, and will leave in place for now.
   - hold lovenox given bleed
 FEVER: Yesterday am, currently afebrile.  Could be due to
   post-obstructive pneumonia, and also had a UTI consistent with
   infection.
   - Continue Ceftriaxone instead of Cefepime since covers enterobacter
   and coag neg staph
   - changed foley yesterday as culture grew yeast
 NAUSEA/VOMITING: Still having drainage out of OG tube, but
   nausea/vomiting resolved.  Feel likely is related to medication effect
   or radiation gastritis. Amylase high, may be due to secretions from
   oropharynx, lipase wnl.
   - TFs- hold for now given bleeding
   - standing reglan, zofran prn
 CANCER (MALIGNANT NEOPLASM), LUNG NSCLC:  New diagnosis, now s/p 4
   treatments of XRT since [**11-11**].  Heme/Onc also following.  Initial
   metastatic workup has been negative with negative Abd and Brain imaging
   but has likely positive lymph nodes based on OSH imaging
   - XRT complete
   - Heme/onc following; will discuss options for chemo
   - SW following
   - Palliative care following
   # CONSTIPATION: Still with constipation and some small episodes of
   diarrhea.  Likely is related to high doses of fentanyl.
   - bowel regimen with senna, colace, bisacodyl, miralax
   - enema, may need dissimpaction repeated
 SUPERIOR VENA CAVA SYNDROME (SVC):  Secondary to lung mass and bulky
   lymphadenopathy.  Will continue IV steroids to decrease inflammation.
   Swelling looks somewhat decreased since admission.
   #.  SOCIAL ISSUES:  Some concern that husband is not coping well with
   wife
s diagnosis.  He is currently health care proxy but has multiple
   times expressed his feelings that he feels as though his wife might as
   well die now, which is not in keeping with her current wishes.
   - SW following, appreciate their guidance
   - on conversation this am, patient states that her HCP is first her
   husband, followed by her daughter.
   ICU [**Name2 (NI) 81**]
   Nutrition: hold TFs, Replete with fiber Full strength, S&S eval today
   Glycemic Control:  None
   Prophylaxis:
   DVT: heparin gtt
   Stress ulcer: PPI
   VAP:
   Comments: Pain control with oxycodone (change to methadone today),
   bowel regimen as above
   Communication:  Comments: Patient, husband and [**Name2 (NI) 12156**]
   Code status: DNR/DNI
   Disposition: ICU, case management looking into placement - plan to go
   to daughter's home with hospice
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2112-11-22**] 04:51 PM 30 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2112-11-16**] 05:09 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2112-11-24 07:09:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2112-11-24**] 01:00 AM
   - Dropped Hct in AM, felt that most likely bleeding from PEG tube, gave
   1 unit blood (post transfusion 21 to 25.2), stopped lovenox, consulted
   GI for possible EGD, GI said not scoping because only loss of 50cc from
   tube.  Suggested not restarting anticoagulation.  Changed to PPI IV
   BID.
   -thoracics looked at Gtube and said bleeding from within, not around
   - if Hct stable in am, will likely retry lovenox with plan to reconsult
   GI if bleeds again.
   - pt stated HCP #1 is her husband, #2 is [**Doctor Last Name 376**]
   -plan to meet with family tomorrow to go to LTAC instead per Christines
   recs. Per nursing staff, nursing care requirements are likely too much
   for family to handle.
   - multiple BMs in pm, likely due to bleeding and constipation.  Sending
   cdiff.
   *Around 1 am, patient desatted to low-mid 80s on fi02 40% then 100% and
   was visibly uncomfortable.  She made the decision for herself to go
   back on the vent.  She was put on AC.
   - at 3am dropped BPs to SBP 70s. BP to 100 soon after.  Gave 250cc
   bolus anyway
   -Started on dilaudid PCA yesterday, which was stopped when when back on
   vent
   Speech and Swallow: fitted for PMV, but suggest video swallow eval when
   taking PO
   Allergies:
   Morphine
   Unknown;
   Sulfa (Sulfonamide Antibiotics)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Ceftriaxone - [**2112-11-23**] 02:22 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2112-11-23**] 09:00 PM
   Hydromorphone (Dilaudid) - [**2112-11-24**] 04:00 AM
   Lorazepam (Ativan) - [**2112-11-24**] 04:45 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2112-11-24**] 07:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.5
C (97.7
   HR: 100 (92 - 125) bpm
   BP: 120/81(91) {67/51(54) - 152/89(104)} mmHg
   RR: 16 (13 - 25) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 51.5 kg (admission): 46.8 kg
   Height: 62 Inch
             Total In:
                                                                  1,074 mL
                                                                    329 mL
   PO:
             TF:
                                                                    190 mL
   IVF:
                                                                    354 mL
                                                                    329 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                    750 mL
                                                                      0 mL
   Urine:
                                                                    750 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    324 mL
                                                                    330 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 26 cmH2O
   Plateau: 18 cmH2O
   Compliance: 34.6 cmH2O/mL
   SpO2: 97%
   ABG: ///27/
   Ve: 7.2 L/min
   Physical Examination
   Gen: NAD
   CV: rrr nl s1/s2 no mrg
   Pulm: rhonchorous on right, but moving good air
   Abd: +BS, no erythema/drainage out of PEG (later on exam had maroon
   blood in tube), TTP around PEG site, no rebound or guarding
   Ext: no edema, warm, good pulses
   Labs / Radiology
   314 K/uL
   8.4 g/dL
   99 mg/dL
   0.5 mg/dL
   27 mEq/L
   4.2 mEq/L
   27 mg/dL
   99 mEq/L
   140 mEq/L
   24.3 %
   12.8 K/uL
        [image002.jpg]
                            [**2112-11-21**]  03:25 AM
                            [**2112-11-21**]  06:01 AM
                            [**2112-11-21**]  06:28 PM
                            [**2112-11-22**]  03:19 AM
                            [**2112-11-22**]  03:35 AM
                            [**2112-11-23**]  04:36 AM
                            [**2112-11-23**]  06:35 AM
                            [**2112-11-23**]  01:35 PM
                            [**2112-11-23**]  09:39 PM
                            [**2112-11-24**]  03:29 AM
   WBC
   16.0
   13.8
   11.1
   10.6
   12.8
   Hct
   28.2
   26.3
   20.8
   21.5
   25.2
   27.0
   24.3
   Plt
   387
   327
   302
   302
   314
   Cr
   0.5
   0.5
   0.4
   0.5
   TCO2
   34
   33
   33
   Glucose
   123
   116
   143
   99
   Other labs: PT / PTT / INR:15.1/21.6/1.3, ALT / AST:20/11, Alk Phos / T
   Bili:108/0.2, Amylase / Lipase:112/42, Differential-Neuts:94.7 %,
   Lymph:2.4 %, Mono:2.7 %, Eos:0.2 %, Lactic Acid:0.8 mmol/L, Albumin:3.2
   g/dL, LDH:280 IU/L, Ca++:9.1 mg/dL, Mg++:1.9 mg/dL, PO4:2.0 mg/dL
   Pleural fluid [**11-21**] prelim neg
   Sputum [**11-20**]
      RARE GROWTH Commensal Respiratory Flora.
      YEAST.    SPARSE GROWTH.
      GRAM NEGATIVE ROD(S).    RARE GROWTH.
   Sputum [**11-17**]
  ENTEROBACTER AEROGENES.
   Sputum [**11-15**]
        ENTEROBACTER AEROGENES.
   Urine [**11-20**]
      YEAST.    >100,000 ORGANISMS/ML..
                  STAPHYLOCOCCUS SPECIES.    ~4000/ML.
   Urine [**11-16**] coag neg staph
   Blood 12/13 pending
   Blood 12/9 negative
   Pleural fluid cytology [**11-21**]: Negative for malignant cells.
   Stomach Biopsies pathology pending
   Imaging:
   CXR this am: stable right pleural effusion compared to yesterday, left
   pleural effusion and RUL collapse unchanged.
   Assessment and Plan
   55 yo female with new diagnosis of non-small cell lung carcinoma
   causing SVC syndrome and respiratory distress, transferred for further
   evaluation and treatment.  Now s/p placement of stent in right main
   bronchus and XRT x 4.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**]):  The patient has a high
   a-A gradient, likely is secondary to shunt physiology, perfusion of
   collapsed lung of RUL and RML as well as compressive atelectasis in
   RLL.  This is likely a fixed defect and will not improve with
   recruitment trials.  Now also with likely post-obstructive pneumonia
   with fever and GNR on sputum culture, growing pan-sensitive
   enterobacter.  Pt now s/p trach and peg.   Patient back on ventilator
   overnight, CXR this morning does not show significant increase in rt
   pleural effusion.  Unclear why patient decompensated overnight but
   likely large anxiety component.
   - Have switched to ceftriaxone (to cover coag neg staph and
   enterobacter), today is day 8 of 8 day course (have stopped Cipro and
   Vanco)
   - transition to trach mask as tolerated
   - will speak with IP regarding possibility/ use of pleurex catheter in
   this case
   - Aggressive steroid taper (currently dex 4mg q12h)
   - will diurese today with goal 1.5 L neg to see if any improvement of
   respiratory function
   .

 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB): concerning
   for bleed around PEG site, especially in the setting of pain with
   lovenox and possible stomach mets with elevated BUN.  Pt. with blood
   out of PEG tube.  Per GI, no indication to scope at present, will
   reevaluate if patient become hemodynamically unstable.
   -active T&S
   -Hct down again this AM; will transfuse 1 U and draw post-transfusion
   Hct
   -Per GI, if Hct remains stable post-transfusion then likely no need to
   scope
   -plan to restart heparin drip if post-transfusion hct stable
   .
  RIJ and SVC clot: CT [**Location (un) **] of thrombus in SVC.  PICC line in SVC
   continues to work, and will leave in place for now.
   - restart heparin as above if pt remains stable post-transfusion
   .
 FEVER: Yesterday am, currently afebrile.  Could be due to
   post-obstructive pneumonia, and also had a UTI consistent with
   infection.
   - Last day of ceftriaxone as above
   - changed foley yesterday as culture grew yeast
   .
 NAUSEA/VOMITING: Still having drainage out of OG tube, but
   nausea/vomiting resolved.  Feel likely is related to medication effect
   or radiation gastritis. Amylase high, may be due to secretions from
   oropharynx, lipase wnl.
   - TFs- hold for now given bleeding
   - standing reglan, zofran prn
   .
 CANCER (MALIGNANT NEOPLASM), LUNG NSCLC:  New diagnosis, now s/p 4
   treatments of XRT since [**11-11**].  Heme/Onc also following.  Initial
   metastatic workup has been negative with negative Abd and Brain imaging
   but has likely positive lymph nodes based on OSH imaging
   - XRT complete
   - Heme/onc following; patient to follow up regarding chemo as
   outpatient if does well
   - SW following
   - Palliative care following
   .
   # CONSTIPATION: Still with constipation and some small episodes of
   diarrhea.  Multiple BMs yesterday, likely from bleeding.
   - bowel regimen with senna, colace, bisacodyl, miralax
   - will send c diff if possible
 SUPERIOR VENA CAVA SYNDROME (SVC):  Secondary to lung mass and bulky
   lymphadenopathy.  Swelling looks somewhat decreased since admission.
   - Will continue steroid taper as above
   .
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN): Appreciate palliative care
   recs.  Was started on dilaudid PCA yesterday, but stopped when vent
   restarted.
   -IV dilaudid prn for now
   #.  SOCIAL ISSUES:  Some concern that husband is not coping well with
   wife
s diagnosis.  He is currently health care proxy but has multiple
   times expressed his feelings that he feels as though his wife might as
   well die now, which is not in keeping with her current wishes.
   - SW following, appreciate their guidance
   - on conversation this am, patient states that her HCP is first her
   husband, followed by her daughter.
   ICU [**Name2 (NI) 81**]
   Nutrition: TF: replete with fiber, on hold for now
   Glycemic Control:  none
   Lines:
   PICC Line - [**2112-11-16**] 05:09 PM
   Prophylaxis:
   DVT: plan to restart heparin drip later today if hct stable
   Stress ulcer: PPI
   VAP:
   Comments: aggressive bowel regimen, pain control with prn dilaudid for
   now
   Communication:  Comments: patient, husband and daughter
   [**Name (NI) 36**] status: DNR/DNI
   Disposition: ICU for now, case management to screen for LTAC

2112-11-25 07:12:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
    -Thoracics came by, said her PEG tube looks ok, put it to gravity and
   never wall suction, and can start using it so started using it for
   meds.  They are okay with her restarting anticoagulation whenever we
   want.
   - GI is okay with her restarting her heparin gtt this evening as long
   as no signs of active bleeding
   - Fell out of bed, covered in feces, otherwise fine
   - Post-tranfusion Hct 29 (from 24.3), restarted heparin gtt.  Early AM
   labs Hct 23.9. Gave unit and stopped heparin.
   - Gave 20mg IV Lasix this am, put out 200-300cc/hr x 4 hours, ended up
   neg 1.1 L.
   - Stayed on trache mask through the day, then got tachypneic in the
   evening, had episode of confusion, and said she was ready to die and
   visit her deceased sister-in-law but we felt like she was super tired
   and slightly confused so will readdress in the am.  Went back on vent
   to rest overnight.
   - Had conversation later about risks of eating.  She had some green
   swabs dipped in smoothie and rubbed on her lips which she loved.  She
   decided she wanted a video swallow to assess the risk of eating
   - received seroquel in evening
   Allergies:
   Morphine
   Unknown;
   Sulfa (Sulfonamide Antibiotics)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Ceftriaxone - [**2112-11-24**] 03:00 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2112-11-24**] 08:00 PM
   Furosemide (Lasix) - [**2112-11-24**] 09:00 PM
   Lorazepam (Ativan) - [**2112-11-25**] 04:00 AM
   Hydromorphone (Dilaudid) - [**2112-11-25**] 05:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2112-11-25**] 07:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
F) at 3 pm
   Tcurrent: 37.1
C (98.8
   HR: 101 (88 - 124) bpm
   BP: 148/76(91) {101/61(69) - 150/105(114)} mmHg
   RR: 16 (5 - 38) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 51.5 kg (admission): 46.8 kg
   Height: 62 Inch
           Total In:
                                                                  1,010 mL
                                                                    345 mL
   PO:
           TF:
   IVF:
                                                                    600 mL
                                                                     90 mL
   Blood products:
                                                                    350 mL
                                                                    255 mL
   Total out:
                                                                  2,115 mL
                                                                    435 mL
   Urine:
                                                                  2,105 mL
                                                                    435 mL
   NG:
                                                                     10 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,105 mL
                                                                    -90 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 290 (290 - 340) mL
   PS : 10 cmH2O
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 107
   PIP: 25 cmH2O
   Plateau: 17 cmH2O
   Compliance: 37.5 cmH2O/mL
   SpO2: 98%
   ABG: ///30/
   Ve: 7.3 L/min
   Physical Examination
   Gen: sleeping
   HEENT: trach in place
   CV: rrr nl s1/s2 no mrg
   Pulm: good air movement anteriorly
   Abd: +BS, no erythema/drainage out of PEG
   Ext: no edema, warm, good pulses
   Labs / Radiology
   239 K/uL
   8.4 g/dL
   143 mg/dL
   0.6 mg/dL
   30 mEq/L
   3.1 mEq/L
   24 mg/dL
   97 mEq/L
   139 mEq/L
   23.9 %
   10.5 K/uL
        [image002.jpg]
                            [**2112-11-22**]  03:19 AM
                            [**2112-11-22**]  03:35 AM
                            [**2112-11-23**]  04:36 AM
                            [**2112-11-23**]  06:35 AM
                            [**2112-11-23**]  01:35 PM
                            [**2112-11-23**]  09:39 PM
                            [**2112-11-24**]  03:29 AM
                            [**2112-11-24**]  01:30 PM
                            [**2112-11-24**]  09:27 PM
                            [**2112-11-25**]  01:10 AM
   WBC
   13.8
   11.1
   10.6
   12.8
   12.6
   10.5
   Hct
   26.3
   20.8
   21.5
   25.2
   27.0
   24.3
   29.0
   28.7
   23.9
   Plt
   327
   302
   302
   [**Telephone/Fax (3) 12208**]
   Cr
   0.5
   0.4
   0.5
   0.6
   TCO2
   33
   Glucose
   116
   143
   99
   143
   Other labs: PT / PTT / INR:21.4/150.0/2.0, ALT / AST:20/11, Alk Phos /
   T Bili:108/0.2, Amylase / Lipase:112/42, Differential-Neuts:94.7 %,
   Lymph:2.4 %, Mono:2.7 %, Eos:0.2 %, Lactic Acid:0.8 mmol/L, Albumin:3.2
   g/dL, LDH:280 IU/L, Ca++:9.0 mg/dL, Mg++:1.6 mg/dL, PO4:3.3 mg/dL
   Pleural fluid Cx [**11-21**] prelim neg
   Sputum [**11-20**] (final)
      RARE GROWTH Commensal Respiratory Flora.
      YEAST.    SPARSE GROWTH.
      GRAM NEGATIVE ROD(S).    RARE GROWTH.
   Sputum [**11-17**]
  ENTEROBACTER AEROGENES.
   Sputum [**11-15**]
        ENTEROBACTER AEROGENES.
   Urine [**11-20**]
      YEAST.    >100,000 ORGANISMS/ML..
                  STAPHYLOCOCCUS SPECIES.    ~4000/ML.
   Urine [**11-16**] coag neg staph
   Blood 12/13 pending
   Blood 12/9 negative
   Pleural fluid cytology [**11-21**]: Negative for malignant cells.
   Stomach Biopsies pathology pending
   Imaging:
   CXR this am not significantly changed
   Assessment and Plan
   55 yo female with new diagnosis of non-small cell lung carcinoma
   causing SVC syndrome and respiratory distress, transferred for further
   evaluation and treatment.  Now s/p placement of stent in right main
   bronchus and XRT x 4.
   .
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**]):  The patient has a high
   a-A gradient, likely is secondary to shunt physiology, perfusion of
   collapsed lung of RUL and RML as well as compressive atelectasis in
   RLL.  This is likely a fixed defect and will not improve with
   recruitment trials.  Now also with likely post-obstructive pneumonia
   with fever and GNR on sputum culture, growing pan-sensitive
   enterobacter.  Pt now s/p trach and peg.   Patient back on ventilator
   overnight, CXR this morning does not show significant increase in rt
   pleural effusion.  Unclear why patient decompensated overnight but
   likely large anxiety component.
   - Completed 8 day course of Ceftriaxone (to cover coag neg staph and
   enterobacter), ended [**11-24**].
   - transition to trach mask as tolerated
   - Aggressive steroid taper -> decreased to dex 4mg daily this morning
   - diuresis yesterday did not clear change respiratory function, but
   patient likely still overloaded.  Will continue to diurese with goal 2
   L neg today
   .

 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB): concerning
   for bleed around PEG site, especially in the setting of pain with
   lovenox and possible stomach mets with elevated BUN.  Pt. with blood
   out of PEG tube.  Per GI, no indication to scope at present, will
   reevaluate if patient become hemodynamically unstable.   Heparin drip
   stopped.
   -active T&S
   -Hct down again this AM; will transfuse 1 U and draw post-transfusion
   Hct
   - will ask GI to scope because of need to anticoagulate given extensive
   clot burden and possibility of losing access if clot increases
   .
  RIJ and SVC clot: CT [**Location (un) **] of thrombus in SVC.  PICC line in SVC
   continues to work, and will leave in place for now.
   -  will hold on anticoagulation until GI scopes this PM
   .
 FEVER: Yesterday am, currently afebrile.  Could be due to
   post-obstructive pneumonia, and also had a UTI consistent with
   infection.
   - finished course of ceftriaxone as above
   - changed foley as culture grew yeast
   .
 NAUSEA/VOMITING: Still having drainage out of OG tube, but
   nausea/vomiting resolved.  Feel likely is related to medication effect
   or radiation gastritis. Amylase high, may be due to secretions from
   oropharynx, lipase wnl.
   - TFs- hold for now given bleeding
   - standing reglan, zofran prn
   .
 CANCER (MALIGNANT NEOPLASM), LUNG NSCLC:  New diagnosis, now s/p 4
   treatments of XRT since [**11-11**].  Heme/Onc also following.  Initial
   metastatic workup has been negative with negative Abd and Brain imaging
   but has likely positive lymph nodes based on OSH imaging
   - XRT complete
   - Heme/onc following; patient to follow up regarding chemo as
   outpatient if does well
   - SW following
   - Palliative care following
   .
   # CONSTIPATION: Still with constipation and some small episodes of
   diarrhea.  Multiple BMs yesterday, likely from bleeding.
   - bowel regimen with senna, colace, bisacodyl, miralax
   - will send c diff if possible
   .
 SUPERIOR VENA CAVA SYNDROME (SVC):  Secondary to lung mass and bulky
   lymphadenopathy.  Swelling looks somewhat decreased since admission.
   - Will continue steroid taper as above
   .
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN): Appreciate palliative care
   recs.  Was started on dilaudid PCA yesterday, but stopped when vent
   restarted.
   -IV dilaudid prn for now
   .
   # Anxiety:
   -standing Ativan.
   #.  SOCIAL ISSUES:  Some concern that husband is not coping well with
   wife
s diagnosis.  He is currently health care proxy but has multiple
   times expressed his feelings that he feels as though his wife might as
   well die now, which is not in keeping with her current wishes.
   - SW following, appreciate their guidance
   - on conversation this am, patient states that her HCP is first her
   husband, followed by her daughter.
   ICU [**Name2 (NI) 81**]
   Nutrition: TF on hold for now
   Glycemic Control:
   Lines:
   PICC Line - [**2112-11-16**] 05:09 PM
   Prophylaxis:
   DVT: heparin stopped, plan to reevaluate after egd
   Stress ulcer: PPI
   VAP:
   Comments: aggressive bowel regimen, pain control with prn dilaudid
   Communication:  Comments: patient, husband and daughter
   [**Name (NI) 36**] status: DNR/DNI
   Disposition: ICU for now, being screened for LTAC

2112-11-26 07:01:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ENDOSCOPY - At [**2112-11-25**] 04:00 PM
   done 1635, small gastric ulcer noted, injected w/epi
   - Hct 23.9 -> 28.7 -> 27.8 (had 1U)
   -GI did egd in PM: saw one small 0.5 cm ulcer, injected epi all around
   and said ok with us restarting anticoagulation now.  also started
   carafate
   - palliative care thought iv dilaudid was making her delerius so went
   back to po oxycodone for pain control, made ativan prn instead of
   standing
   - Stomach Bx:
   1.  Antral mucosa with chemical type gastropathy and associated
   ulceration.
   2.  Corpus mucosa, no diagnostic abnormalities recognized.
   3.  Iron stain is negative.
   - walked with PT and looked great!
   - gave lasix 20 IV x 3 to diurese
   - TF on hold
   Allergies:
   Morphine
   Unknown;
   Sulfa (Sulfonamide Antibiotics)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Ceftriaxone - [**2112-11-24**] 03:00 PM
   Infusions:
   Heparin Sodium - 200 units/hour
   Other ICU medications:
   Lorazepam (Ativan) - [**2112-11-25**] 08:00 AM
   Midazolam (Versed) - [**2112-11-25**] 04:15 PM
   Hydromorphone (Dilaudid) - [**2112-11-25**] 04:20 PM
   Furosemide (Lasix) - [**2112-11-25**] 11:00 PM
   Other medications:
   Albuterol Inhaler 5. Bisacodyl 6. Chlorhexidine Gluconate 0.12% Oral
   Rinse 7. Dexamethasone
   8. Docusate Sodium (Liquid) 9. Furosemide 10. Furosemide 11. Furosemide
   12. Heparin Flush (10 units/ml)
   13. Heparin 14. Ipratropium Bromide MDI 15. Lorazepam 16. Lorazepam 17.
   Magnesium Sulfate 18. Metoclopramide
   19. Midazolam 20. Nicotine Patch 21. Ondansetron 22. OxycoDONE
   (Immediate Release) 23. Pantoprazole
   24. Polyethylene Glycol 25. Potassium Chloride 26. Potassium Chloride
   27. Potassium Chloride 28. Senna
   29. Sodium Chloride 0.9% Flush 30. Sodium Chloride 0.9% Flush 31.
   Sucralfate
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2112-11-26**] 07:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.4
C (97.6
   HR: 91 (86 - 108) bpm
   BP: 120/73(83) {91/48(61) - 187/117(155)} mmHg
   RR: 16 (7 - 26) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 51.5 kg (admission): 46.8 kg
   Height: 62 Inch
             Total In:
                                                                  1,237 mL
                                                                    182 mL
   PO:
             TF:
   IVF:
                                                                    547 mL
                                                                     92 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                  2,310 mL
                                                                    850 mL
   Urine:
                                                                  2,310 mL
                                                                    840 mL
   NG:
   10 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,073 mL
                                                                   -668 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 26 cmH2O
   Plateau: 20 cmH2O
   SpO2: 98%
   ABG: ///28/
   Ve: 7.3 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   258 K/uL
   10.6 g/dL
   113 mg/dL
   0.6 mg/dL
   28 mEq/L
   4.5 mEq/L
   19 mg/dL
   94 mEq/L
   137 mEq/L
   30.5 %
   11.1 K/uL
        [image002.jpg]
                            [**2112-11-23**]  06:35 AM
                            [**2112-11-23**]  01:35 PM
                            [**2112-11-23**]  09:39 PM
                            [**2112-11-24**]  03:29 AM
                            [**2112-11-24**]  01:30 PM
                            [**2112-11-24**]  09:27 PM
                            [**2112-11-25**]  01:10 AM
                            [**2112-11-25**]  10:45 AM
                            [**2112-11-25**]  06:09 PM
                            [**2112-11-26**]  12:53 AM
   WBC
   10.6
   12.8
   12.6
   10.5
   11.2
   11.1
   Hct
   21.5
   25.2
   27.0
   24.3
   29.0
   28.7
   23.9
   28.7
   27.8
   30.5
   Plt
   [**Telephone/Fax (2) 12225**]
   Cr
   0.5
   0.6
   0.6
   Glucose
   99
   143
   113
   Other labs: PT / PTT / INR:21.3/150.0/2.0, Ca++:9.1 mg/dL, Mg++:2.1
   mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   55 yo female with new diagnosis of non-small cell lung carcinoma
   causing SVC syndrome and respiratory distress, transferred for further
   evaluation and treatment.  Now s/p placement of stent in right main
   bronchus and XRT x 4.
   .
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**]):  The patient has a high
   a-A gradient, likely is secondary to shunt physiology, perfusion of
   collapsed lung of RUL and RML as well as compressive atelectasis in
   RLL.  This is likely a fixed defect and will not improve with
   recruitment trials.  Now s/p tx for post-obstructive pneumonia with
   fever and GNR on sputum culture, growing pan-sensitive enterobacter.
   Pt now s/p trach and peg.   Patient back on ventilator overnight, after
   endoscopy.
   - Completed 8 day course of Ceftriaxone (to cover coag neg staph and
   enterobacter), ended [**11-24**].
   - transition to trach mask as tolerated
   - Aggressive steroid taper -> decreased to dex 4mg yesterday, keep that
   dose and set at 2mg for tomorrow.
   - diuresed >1L yesterday, now net positive 500c for LOS.  Diuresis to
   even today.
   .

 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB): concerning
   for bleed around PEG site, especially in the setting of pain with
   lovenox and possible stomach mets with elevated BUN.  Pt. with blood
   out of PEG tube.  S/p endoscopy with intervention for ulcer.
   -active T&S
   - restarted Heparin yesterday
   -[**Hospital1 7**] Hct
  RIJ and SVC clot: CT [**Location (un) **] of thrombus in SVC.  PICC line in SVC
   continues to work, and will leave in place for now.
   -  Cont Heparin, consider starting Lovenox this pm
   .
 NAUSEA/VOMITING: now resolved
   - TFs- consider restarting or just allowing patient to eat today
   - standing reglan, zofran prn
   .
 CANCER (MALIGNANT NEOPLASM), LUNG NSCLC:  New diagnosis, now s/p 4
   treatments of XRT since [**11-11**].  Heme/Onc also following.  Initial
   metastatic workup has been negative with negative Abd and Brain imaging
   but has likely positive lymph nodes based on OSH imaging
   - XRT complete
   - Heme/onc following; patient to follow up regarding chemo as
   outpatient if does well
   - SW following
   - Palliative care following
   .
   # CONSTIPATION:diarrhea tappering off- likely due to GIB
   - bowel regimen with senna, colace, bisacodyl, miralax
   - cdiff negative
   .
 SUPERIOR VENA CAVA SYNDROME (SVC):  Secondary to lung mass and bulky
   lymphadenopathy.  Swelling looks somewhat decreased since admission.
   - Will continue steroid taper as above
   .
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN): Appreciate palliative care
   recs.  Changed to Oxycodone from dilaudid due to delerium
   .
   # Anxiety:
   -standing Ativan.
   #.  SOCIAL ISSUES:  Some concern that husband is not coping well with
   wife
s diagnosis.  He is currently health care proxy but has multiple
   times expressed his feelings that he feels as though his wife might as
   well die now, which is not in keeping with her current wishes.
   - SW following, appreciate their guidance
   - on conversation, patient states that her HCP is first her husband,
   followed by her daughter.
   ICU [**Name2 (NI) 81**]
   Nutrition: TF on hold for now- consider change to PO today, consult
   with GI
   Glycemic Control:
   Lines:
   PICC Line - [**2112-11-16**] 05:09 PM
   Prophylaxis:
   DVT: heparin
   Stress ulcer: PPI
   VAP:
   Comments: aggressive bowel regimen, pain control with prn dilaudid
   Communication:  Comments: patient, husband and daughter
   [**Name (NI) 36**] status: DNR/DNI
   Disposition: ICU for now, being screened for LTAC- Youvill only that
   takes insurance but has not responded

2112-11-26 10:38:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   55yo F with NSCLC and RUL, RML obstruction with intermittent ventilator
   dependence.
   24 Hour Events:
 ENDOSCOPY - At [**2112-11-25**] 04:00 PM
   done 1635, small gastric ulcer noted, injected w/epi
On ventilator overnight
   History obtained from Patient, Family / Friend
   Allergies:
   Morphine
   Unknown;
   Sulfa (Sulfonamide Antibiotics)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Ceftriaxone - [**2112-11-24**] 03:00 PM
   Infusions:
   Heparin Sodium - 200 units/hour
   Other ICU medications:
   Midazolam (Versed) - [**2112-11-25**] 04:15 PM
   Hydromorphone (Dilaudid) - [**2112-11-25**] 04:20 PM
   Furosemide (Lasix) - [**2112-11-25**] 11:00 PM
   Pantoprazole (Protonix) - [**2112-11-26**] 08:16 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2112-11-26**] 10:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 37.1
C (98.7
   HR: 89 (82 - 108) bpm
   BP: 111/71(81) {91/48(61) - 187/117(155)} mmHg
   RR: 16 (7 - 26) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 51.5 kg (admission): 46.8 kg
   Height: 62 Inch
             Total In:
                                                                  1,237 mL
                                                                    293 mL
   PO:
             TF:
   IVF:
                                                                    547 mL
                                                                    143 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                  2,310 mL
                                                                    900 mL
   Urine:
                                                                  2,310 mL
                                                                    890 mL
   NG:
   10 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,073 mL
                                                                   -607 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 26 cmH2O
   Plateau: 20 cmH2O
   SpO2: 98%
   ABG: ///28/
   Ve: 7.3 L/min
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.6 g/dL
   258 K/uL
   113 mg/dL
   0.6 mg/dL
   28 mEq/L
   4.5 mEq/L
   19 mg/dL
   94 mEq/L
   137 mEq/L
   30.5 %
   11.1 K/uL
        [image002.jpg]
                            [**2112-11-23**]  06:35 AM
                            [**2112-11-23**]  01:35 PM
                            [**2112-11-23**]  09:39 PM
                            [**2112-11-24**]  03:29 AM
                            [**2112-11-24**]  01:30 PM
                            [**2112-11-24**]  09:27 PM
                            [**2112-11-25**]  01:10 AM
                            [**2112-11-25**]  10:45 AM
                            [**2112-11-25**]  06:09 PM
                            [**2112-11-26**]  12:53 AM
   WBC
   10.6
   12.8
   12.6
   10.5
   11.2
   11.1
   Hct
   21.5
   25.2
   27.0
   24.3
   29.0
   28.7
   23.9
   28.7
   27.8
   30.5
   Plt
   [**Telephone/Fax (2) 12225**]
   Cr
   0.5
   0.6
   0.6
   Glucose
   99
   143
   113
   Other labs: PT / PTT / INR:21.3/150.0/2.0, ALT / AST:20/11, Alk Phos /
   T Bili:108/0.2, Amylase / Lipase:112/42, Differential-Neuts:94.7 %,
   Lymph:2.4 %, Mono:2.7 %, Eos:0.2 %, Lactic Acid:0.8 mmol/L, Albumin:3.2
   g/dL, LDH:280 IU/L, Ca++:9.1 mg/dL, Mg++:2.1 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
 Respiratory Failure
   - on T-piece now, looks well
   - diuresing, suctioning as needed
 GI bleed
   - injected yesterday on EGD and crit stable on heparin drip
   - continue [**Hospital1 7**] drips
   - restart lovenox this evening and stop heparin drip
   - will d/w GI about starting diet today
 SVC syndrome/clot
   - plan as above, plan indefinite lovenox
   - on steroids, will discontinue today and follow for worsening swelling
 Pain
   - less delirium on oxycodone, seems comfortable
   - would still like long-acting regimen (? methadone), will d/w
   palliative care
   - continue ativan prn
 CANCER, LUNG NSCLC
   - no plan for chemotherapy, s/p palliative XRT
 GOC: DNR, patient has considered becoming CMO but doesn't feel ready
   because she is comfortable and enjoying time with her family
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2112-11-16**] 05:09 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication: ICU consent signed Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 30 minutes

2112-11-27 07:22:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - CM said probably couldnt go until Monday anyway (waiting to here from
   [**Hospital1 997**])
   - changed to Lovenox
   - started diet
   - nicotine patch decreased
   - started Methadone.  [**First Name8 (NamePattern2) **] [**First Name8 (NamePattern2) 376**] [**Last Name (NamePattern1) 377**], takes 2-3 days for Methadone to
   kick in so dont be surprised if still requiring lots of prns, but be
   readh to back off on them around Monday.
   - mild nose bleed in pm (patient said was picking her nose) which
   resolved on own
   - having dark tarry stools-similar to before- but now less frequent
   -poor UOP but nothing unusual for her
   Allergies:
   Morphine
   Unknown;
   Sulfa (Sulfonamide Antibiotics)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Ceftriaxone - [**2112-11-24**] 03:00 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2112-11-26**] 08:16 AM
   Carafate (Sucralfate) - [**2112-11-27**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2112-11-27**] 07:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 37.1
C (98.7
   HR: 99 (72 - 99) bpm
   BP: 127/76(88) {92/52(62) - 163/91(104)} mmHg
   RR: 17 (10 - 26) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 51.5 kg (admission): 46.8 kg
   Height: 62 Inch
             Total In:
                                                                  1,524 mL
                                                                    610 mL
   PO:
             TF:
                                                                     80 mL
                                                                    189 mL
   IVF:
                                                                  1,174 mL
                                                                    186 mL
   Blood products:
   Total out:
                                                                  1,118 mL
                                                                    173 mL
   Urine:
                                                                  1,108 mL
                                                                    173 mL
   NG:
                                                                     10 mL
   Stool:
   Drains:
   Balance:
                                                                    406 mL
                                                                    437 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 23 cmH2O
   SpO2: 100%
   ABG: ///29/
   Ve: 7.5 L/min
   Physical Examination
   Gen: NAD
   CV: rrr nl s1/s2 no mrg
   Pulm: decreased BS right base
   Ext: no edema
   Labs / Radiology
   281 K/uL
   9.9 g/dL
   91 mg/dL
   0.5 mg/dL
   29 mEq/L
   3.5 mEq/L
   18 mg/dL
   92 mEq/L
   130 mEq/L
   29.0 %
   10.1 K/uL
        [image002.jpg]
                            [**2112-11-23**]  09:39 PM
                            [**2112-11-24**]  03:29 AM
                            [**2112-11-24**]  01:30 PM
                            [**2112-11-24**]  09:27 PM
                            [**2112-11-25**]  01:10 AM
                            [**2112-11-25**]  10:45 AM
                            [**2112-11-25**]  06:09 PM
                            [**2112-11-26**]  12:53 AM
                            [**2112-11-26**]  03:13 PM
                            [**2112-11-27**]  03:22 AM
   WBC
   12.8
   12.6
   10.5
   11.2
   11.1
   10.1
   Hct
   27.0
   24.3
   29.0
   28.7
   23.9
   28.7
   27.8
   30.5
   29.3
   29.0
   Plt
   [**Telephone/Fax (3) **]38
   258
   281
   Cr
   0.5
   0.6
   0.6
   0.5
   Glucose
   99
   143
   113
   91
   Other labs: PT / PTT / INR:18.1/28.1/1.6, ALT / AST:20/11, Alk Phos / T
   Bili:108/0.2, Amylase / Lipase:112/42, Differential-Neuts:94.7 %,
   Lymph:2.4 %, Mono:2.7 %, Eos:0.2 %, Lactic Acid:0.8 mmol/L, Albumin:3.2
   g/dL, LDH:280 IU/L, Ca++:8.7 mg/dL, Mg++:1.9 mg/dL, PO4:2.7 mg/dL
   No CXR in OMR, no new micro data
   Assessment and Plan
   55 yo female with new diagnosis of non-small cell lung carcinoma
   causing SVC syndrome and respiratory distress, transferred for further
   evaluation and treatment.  Now s/p placement of stent in right main
   bronchus and XRT x 4.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**]):  The patient has a high
   a-A gradient, likely is secondary to shunt physiology, perfusion of
   collapsed lung of RUL and RML as well as compressive atelectasis in
   RLL.  This is likely a fixed defect and will not improve with
   recruitment trials.  Now s/p tx for post-obstructive pneumonia with
   fever and GNR on sputum culture, growing pan-sensitive enterobacter.
   Pt now s/p trach and peg.   Patient back on ventilator overnight, after
   endoscopy.
   - Completed 8 day course of Ceftriaxone (to cover coag neg staph and
   enterobacter), ended [**11-24**].
   - transition to trach mask as tolerated
   - Aggressive steroid taper -> decreased to dex 4mg yesterday, d/c now
   - diuresed >1L yesterday, now net positive 500c for LOS.  Diuresis to
   even today.

 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB): concerning
   for bleed around PEG site, especially in the setting of pain with
   lovenox and possible stomach mets with elevated BUN.  Pt. with blood
   out of PEG tube.  S/p endoscopy with intervention for ulcer.
   -active T&S
   - restarted Heparin yesterday, transition to lovenox today
   -[**Hospital1 7**] Hct
  RIJ and SVC clot: CT [**Location (un) **] of thrombus in SVC.  PICC line in SVC
   continues to work, and will leave in place for now.
   -  Cont Heparin, starting Lovenox this pm
   .
 NAUSEA/VOMITING: now resolved
   - TFs- consider restarting and allow patient to eat (pureed, thick
   liq)  today but run past GI
   - standing reglan, zofran prn
   .
 CANCER (MALIGNANT NEOPLASM), LUNG NSCLC:  New diagnosis, now s/p 4
   treatments of XRT since [**11-11**].  Heme/Onc also following.  Initial
   metastatic workup has been negative with negative Abd and Brain imaging
   but has likely positive lymph nodes based on OSH imaging
   - XRT complete
   - Heme/onc following; patient to follow up regarding chemo as
   outpatient if does well
   - SW following
   - Palliative care following
   .
   # CONSTIPATION:diarrhea tappering off- likely due to GIB
   - bowel regimen with senna, colace, bisacodyl, miralax
   - cdiff negative
   .
 SUPERIOR VENA CAVA SYNDROME (SVC):  Secondary to lung mass and bulky
   lymphadenopathy.  Swelling looks somewhat decreased since admission.
   - d/c steroid today
   .
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN): Appreciate palliative care
   recs.  Changed to Oxycodone from dilaudid due to delerium
   .
   # Anxiety:
   -standing Ativan.
   #.  SOCIAL ISSUES:  Some concern that husband is not coping well with
   wife
s diagnosis.  He is currently health care proxy but has multiple
   times expressed his feelings that he feels as though his wife might as
   well die now, which is not in keeping with her current wishes.
   - SW following, appreciate their guidance
   - on conversation, patient states that her HCP is first her husband,
   followed by her daughter.
   ICU [**Name2 (NI) 81**]
   Nutrition: Replete with Fiber (Full) - [**2112-11-27**] 06:18 AM 30 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2112-11-16**] 05:09 PM
   Prophylaxis:
   DVT: heparin gtt to lovenox today
   Stress ulcer: PPI
   VAP:
   Comments: aggressive bowel regimen, pain control with prn dilaudid
   Communication:  Comments: patient, husband and daughter
   [**Name (NI) 36**] status: DNR/DNI
   Disposition: ICU for now, being screened for LTAC- Youvill only that
   takes insurance but has not responded ; d/w CM that patient will likely
   be ready tomorrow or day after

2112-11-27 15:42:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   55yo F who presented with respiratory distress, diagnosed wtih NSLC of
   the R lung causing RML and RUL bronchi obstruction; now on and off
   ventilator, s/p trach/PEG.
   24 Hour Events:
Slept better overnight, pain under moderate control
   History obtained from Patient
   Allergies:
   Morphine
   Unknown;
   Sulfa (Sulfonamide Antibiotics)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Carafate (Sucralfate) - [**2112-11-27**] 12:00 AM
   Pantoprazole (Protonix) - [**2112-11-27**] 09:30 AM
   Other medications:
   Changes to medical and family history: None
   Review of systems is unchanged from admission except as noted below
   Review of systems:  pain is better controlled today, but feels tired
   from methadone
   Flowsheet Data as of  [**2112-11-27**] 03:40 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.9
C (98.4
   HR: 91 (72 - 101) bpm
   BP: 138/72(88) {81/15(49) - 163/91(103)} mmHg
   RR: 8 (5 - 26) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 51.5 kg (admission): 46.8 kg
   Height: 62 Inch
             Total In:
                                                                  1,524 mL
                                                                  1,370 mL
   PO:
             TF:
                                                                     80 mL
                                                                    399 mL
   IVF:
                                                                  1,174 mL
                                                                    666 mL
   Blood products:
   Total out:
                                                                  1,118 mL
                                                                    275 mL
   Urine:
                                                                  1,108 mL
                                                                    275 mL
   NG:
                                                                     10 mL
   Stool:
   Drains:
   Balance:
                                                                    406 mL
                                                                  1,095 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 24 cmH2O
   Plateau: 19 cmH2O
   SpO2: 96%
   ABG: ///29/
   Ve: 7.4 L/min
   Physical Examination
   General: awake, pleasant, sitting in a chair
   HEENT/Neck: ongoing significant swelling, trach site clean
   Pulm: dullness at R base > L base, no wheezing
   CV: regular, no murmurs/rubs/gallops
   Abdomen: soft, non-tender, non-distended, (+) bowel sounds
   Extremities: (+) edema R>L UE, trace LE edema
   Peripheral Vascular: pulses intact throughout
   Neurologic: awake, alert, pleasant
   Labs / Radiology
   9.9 g/dL
   281 K/uL
   91 mg/dL
   0.5 mg/dL
   29 mEq/L
   3.5 mEq/L
   18 mg/dL
   92 mEq/L
   130 mEq/L
   29.0 %
   10.1 K/uL
        [image002.jpg]
                            [**2112-11-23**]  09:39 PM
                            [**2112-11-24**]  03:29 AM
                            [**2112-11-24**]  01:30 PM
                            [**2112-11-24**]  09:27 PM
                            [**2112-11-25**]  01:10 AM
                            [**2112-11-25**]  10:45 AM
                            [**2112-11-25**]  06:09 PM
                            [**2112-11-26**]  12:53 AM
                            [**2112-11-26**]  03:13 PM
                            [**2112-11-27**]  03:22 AM
   WBC
   12.8
   12.6
   10.5
   11.2
   11.1
   10.1
   Hct
   27.0
   24.3
   29.0
   28.7
   23.9
   28.7
   27.8
   30.5
   29.3
   29.0
   Plt
   [**Telephone/Fax (3) **]38
   258
   281
   Cr
   0.5
   0.6
   0.6
   0.5
   Glucose
   99
   143
   113
   91
   Other labs: PT / PTT / INR:18.1/28.1/1.6, ALT / AST:20/11, Alk Phos / T
   Bili:108/0.2, Amylase / Lipase:112/42, Differential-Neuts:94.7 %,
   Lymph:2.4 %, Mono:2.7 %, Eos:0.2 %, Lactic Acid:0.8 mmol/L, Albumin:3.2
   g/dL, LDH:280 IU/L, Ca++:8.7 mg/dL, Mg++:1.9 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
 Respiratory Failure
   - primarily receiving nocturnal ventilation, currently comfortable on
   her TM
   - s/p thoracentesis of R pleural effusion with some reaccumulation,
   likely due to significant collapse
 SVC syndrome
   - continues on LMWH indefinitely
 GI bleed
   - s/p epi injection of small gastric ulcer, now tolerating
   anticoagulation
   - crit stable x multiple days
 Pain Control
   - has chronic pain at baseline
   - started methadone with oxycodone for breakthrough, complaining of
   some fatigue on the methadone but willing to continue to assess, if
   remains [**Name (NI) 12254**], would add fent patch
 NSCLC
   - not receiving chemotherapy
   - s/p palliative XRT
 Constipation
   - improved significantly, continue bowel regimen
   ICU Care
   Nutrition: TFs/PO
   Glycemic Control:
   Lines:
   PICC Line - [**2112-11-16**] 05:09 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: LMWH Heparin)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Communication:  with patient, daughter [**Name (NI) 376**] and husband [**Name (NI) **]
   [**Name (NI) 36**] status: DNR (do not resuscitate)
   Disposition :ICU
   Critically ill
   Total time spent: 30 minutes

2112-11-28 06:59:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2112-11-27**] 09:30 AM
   - Had episode of coughing followed by vomiting x 2, with residuals
   slightly increased from previous so turned down tube feeds
   - Also with decreased UOP so gave 1L NS (even though this will likely
   make her positive over 24 hours by a decent amount)
   - had a bit of a restless night but stayed off the ventilator the whole
   night (may need to go on at night to rest)
   -took 300mg oxycodone m/n-m/n
   -took 120mg oxycodone already today
   Allergies:
   Morphine
   Unknown;
   Sulfa (Sulfonamide Antibiotics)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2112-11-27**] 09:30 AM
   Carafate (Sucralfate) - [**2112-11-27**] 06:00 PM
   Other medications:
   1000 mL NS 5. Albuterol Inhaler 6. Bisacodyl 7. Chlorhexidine Gluconate
   0.12% Oral Rinse
   8. Docusate Sodium (Liquid) 9. Enoxaparin Sodium 10. Heparin Flush (10
   units/ml) 11. Ipratropium Bromide MDI
   12. Lorazepam 13. Lorazepam 14. Metoclopramide 15. Methadone 16.
   Nicotine Patch 17. Ondansetron
   18. OxycoDONE (Immediate Release) 19. Pantoprazole 20. Polyethylene
   Glycol 21. Senna 22. Sodium Chloride 0.9% Flush
   23. Sodium Chloride 0.9% Flush 24. Sucralfate
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems: no pain currently, wants to sleep
   Flowsheet Data as of  [**2112-11-28**] 06:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.2
C (97.2
   HR: 88 (77 - 101) bpm
   BP: 119/66(79) {81/15(49) - 169/107(115)} mmHg
   RR: 6 (5 - 23) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 51.5 kg (admission): 46.8 kg
   Height: 62 Inch
             Total In:
                                                                  3,080 mL
                                                                    450 mL
   PO:
             TF:
                                                                    815 mL
                                                                    205 mL
   IVF:
                                                                  1,750 mL
                                                                     40 mL
   Blood products:
   Total out:
                                                                    414 mL
                                                                    132 mL
   Urine:
                                                                    414 mL
                                                                    132 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,666 mL
                                                                    318 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: Standby
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 70%
   PIP: 24 cmH2O
   Plateau: 19 cmH2O
   SpO2: 96%
   ABG: ///27/
   Ve: 7.4 L/min
   Physical Examination
   Deferred until rounds
   Labs / Radiology
   341 K/uL
   10.5 g/dL
   133 mg/dL
   0.6 mg/dL
   27 mEq/L
   4.1 mEq/L
   17 mg/dL
   97 mEq/L
   133 mEq/L
   31.4 %
   11.7 K/uL
        [image002.jpg]
                            [**2112-11-24**]  03:29 AM
                            [**2112-11-24**]  01:30 PM
                            [**2112-11-24**]  09:27 PM
                            [**2112-11-25**]  01:10 AM
                            [**2112-11-25**]  10:45 AM
                            [**2112-11-25**]  06:09 PM
                            [**2112-11-26**]  12:53 AM
                            [**2112-11-26**]  03:13 PM
                            [**2112-11-27**]  03:22 AM
                            [**2112-11-28**]  03:26 AM
   WBC
   12.8
   12.6
   10.5
   11.2
   11.1
   10.1
   11.7
   Hct
   24.3
   29.0
   28.7
   23.9
   28.7
   27.8
   30.5
   29.3
   29.0
   31.4
   Plt
   [**Telephone/Fax (3) **]38
   258
   281
   341
   Cr
   0.5
   0.6
   0.6
   0.5
   0.6
   Glucose
   99
   143
   113
   91
   133
   Other labs: PT / PTT / INR:18.1/28.1/1.6, Albumin:3.2 g/dL, Ca++:8.7
   mg/dL, Mg++:1.9 mg/dL, PO4:2.7 mg/dL
   Imaging: none
   Microbiology: none pending
   Assessment and Plan
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   low u/o
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 ANXIETY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 CANCER (MALIGNANT NEOPLASM), LUNG
   NSCLC
 NAUSEA / VOMITING
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 SUPERIOR VENA CAVA SYNDROME (SVC)
 CONSTIPATION (OBSTIPATION, FOS)
 TOBACCO USE, CURRENT
   55 yo female with new diagnosis of non-small cell lung carcinoma
   causing SVC syndrome and respiratory distress, transferred for further
   evaluation and treatment.  Now s/p placement of stent in right main
   bronchus and XRT x 4.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**]):  Likely was due to NSCLC,
   now s/p treatment for post-obstructive.  Pt now s/p trach and peg,
   using trache mask during the day and most of night.
   - Completed 8 day course of Ceftriaxone (to cover coag neg staph and
   enterobacter), ended [**11-24**]
   - Trach mask as tolerated
   - Have stopped steroids
   - Goal even fluid balance today
   - for anxiety, consider switch to klonipin as may cause less sedation
   than ativan
   Increased neck swelling:  concern for increased clot burden versus
   volume overload
   -consider restarting steroids since that had been stopped 1-2 days ago
   -check Factor Xa level to assess if lovenox therapeutic
   -CXR given increased edema
 NUTRITION: Vomiting yesterday with high residuals and again this
   morning without trigger (suctioning)
   - TFs turned down for now- allow pt to take PO if she wants
   -continue karefate
   - standing reglan, zofran prn, continue ativan
   Vomiting: as not associated with nausea, concern for intracranial
   versus vagal nerve problem.  Particularly as stopped steroids, ? if
   intracranial edema
   -consider head imaging and restarting steroids (decadron)

 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB): S/p endoscopy
   with intervention for ulcer and PEG tube placement with multiple
   biopsies
   - maintain active T&S
   - now on Lovenox for anticoagulation
   - follow daily Hct
  RIJ and SVC clot: Has thrombus in SVC, PICC line in SVC continues to
   work, and will leave in place for now.
   -  Continue Lovenox as above
   #. HYPONATREMIA: Na up to 133, after repleting with NS
   -avoid further IVF given edema
 CANCER (MALIGNANT NEOPLASM), LUNG NSCLC:  New diagnosis, now s/p 4
   treatments of XRT since [**11-11**].  Initial metastatic workup has been
   negative with negative Abd and Brain imaging but may have positive
   lymph nodes based on OSH imaging.
   - XRT complete
   - Heme/onc following; patient to follow up regarding chemo as
   outpatient if does well
   - SW following
   - Palliative care following
   # CONSTIPATION:now with nl BMs
   - bowel regimen with senna, colace, bisacodyl, miralax
   - cdiff negative
 SUPERIOR VENA CAVA SYNDROME (SVC):  Secondary to lung mass and bulky
   lymphadenopathy.
   -plan as above
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN): Appreciate palliative care
   recs.  Now on methadone but patient complains of feeling tired and
   vomiting and thinks it is due to methodone.  Likely will not tolerate
   fentanyl patch given high pain threshhold
   - consider change to fentanyl drip if LTAC will accept versus change to
   standing oxycodone if patient can tolerate
   # Anxiety: Now on prn Ativan
   -consider change as above
   #.  SOCIAL ISSUES:  Husband appears to be coping better than previous,
   plan is for patient to go to LTACH with the support of her family.
   - SW following, appreciate their guidance
   - Follow up case management status and placement issues
   -d/c nicotine patch
   ICU Care
   Nutrition: Replete with Fiber (Full) - [**2112-11-27**] 06:18 AM 30 mL/hour,
   can take some PO
   Glycemic Control:
   Lines: PICC Line - [**2112-11-16**] 05:09 PM
   Prophylaxis:
   DVT: Lovenox
   Stress ulcer: PPI
   VAP:
   Comments: Aggressive bowel regimen, pain control with prn morphine
   Communication:  Comments: patient, husband and daughter
   [**Name (NI) 36**] status: DNR/DNI
   Disposition: ICU for now, being screened for LTAC - [**Hospital1 189**] only that
   takes insurance but has not responded ; while bed may be ready,
   patient
s vomiting, neck swelling and pain still need to be managed
   further.  Goal 1-2 days until LTAC.

2112-11-28 12:40:00 Physician Attending Progress Note
Chief Complaint:  resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:  55 F who presented with respiratory distress, diagnosed wtih NSLC
   of the R lung causing RML and RUL bronchi obstruction and SVC syndrome,
   now on and off ventilator, s/p trach/[** **].
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2112-11-27**] 09:30 AM
   remained on TC overnight, did not sleep well
   NS bolus for low urine outpt
   emesis X 2 this am
   Allergies:
   Morphine
   Unknown;
   Sulfa (Sulfonamide Antibiotics)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Carafate (Sucralfate) - [**2112-11-27**] 06:00 PM
   Pantoprazole (Protonix) - [**2112-11-28**] 08:15 AM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2112-11-28**] 12:40 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.4
C (97.5
   HR: 83 (77 - 110) bpm
   BP: 80/48(56) {80/48(56) - 169/107(115)} mmHg
   RR: 16 (5 - 28) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 51.5 kg (admission): 46.8 kg
   Height: 62 Inch
             Total In:
                                                                  3,080 mL
                                                                    598 mL
   PO:
             TF:
                                                                    815 mL
                                                                    248 mL
   IVF:
                                                                  1,750 mL
                                                                     50 mL
   Blood products:
   Total out:
                                                                    414 mL
                                                                    302 mL
   Urine:
                                                                    414 mL
                                                                    202 mL
   NG:
   100 mL
   Stool:
   Drains:
   Balance:
                                                                  2,666 mL
                                                                    296 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 26 cmH2O
   Plateau: 22 cmH2O
   SpO2: 98%
   ABG: ///27/
   Ve: 7.7 L/min
   Physical Examination
   Alertt and interactive, in NAD
   Neck appears more swollen, NT, no SQ emphysema
   Trach site clean
   Diminished AM/BS
   RR
   Soft [**Last Name (LF) **], [**First Name3 (LF) **] site clean
   UE mild edema
   Labs / Radiology
   10.5 g/dL
   341 K/uL
   133 mg/dL
   0.6 mg/dL
   27 mEq/L
   4.1 mEq/L
   17 mg/dL
   97 mEq/L
   133 mEq/L
   31.4 %
   11.7 K/uL
        [image002.jpg]
                            [**2112-11-24**]  03:29 AM
                            [**2112-11-24**]  01:30 PM
                            [**2112-11-24**]  09:27 PM
                            [**2112-11-25**]  01:10 AM
                            [**2112-11-25**]  10:45 AM
                            [**2112-11-25**]  06:09 PM
                            [**2112-11-26**]  12:53 AM
                            [**2112-11-26**]  03:13 PM
                            [**2112-11-27**]  03:22 AM
                            [**2112-11-28**]  03:26 AM
   WBC
   12.8
   12.6
   10.5
   11.2
   11.1
   10.1
   11.7
   Hct
   24.3
   29.0
   28.7
   23.9
   28.7
   27.8
   30.5
   29.3
   29.0
   31.4
   Plt
   [**Telephone/Fax (3) **]38
   258
   281
   341
   Cr
   0.5
   0.6
   0.6
   0.5
   0.6
   Glucose
   99
   143
   113
   91
   133
   Other labs: PT / PTT / INR:18.1/28.1/1.6, ALT / AST:20/11, Alk Phos / T
   Bili:108/0.2, Amylase / Lipase:112/42, Differential-Neuts:91.6 %,
   Lymph:3.6 %, Mono:4.2 %, Eos:0.6 %, Lactic Acid:0.8 mmol/L, Albumin:3.2
   g/dL, LDH:280 IU/L, Ca++:8.7 mg/dL, Mg++:1.9 mg/dL, PO4:2.7 mg/dL
   Imaging: no imaging
   Microbiology: no micro
   Assessment and Plan
   # Respiratory Failure
   --continue TC as tolerates with ventilatory support  as needed for
   comfort
   # SVC syndrome-- appears more swollen, concern for progression of clot
   burden/ tumor with limited treatment options
   - continue LMWH (indefinitely)
   --consider restarting low dose steroids for possible effect
   --massess clot and tumor burden, no role for additional stenting
   # vomiting--unlcear etiology, ? centrally mediated, ? med related
   -d/w palliative care team change in narcotics (?fent patch)
   --initiate standing zofran and reglan with prn ativan + at night
   #  Pain Control-has chronic pain at baseline with high narcotic
   requirement
   - started methadone with oxycodone for breakthrough, but  w/ sedation
   and ? nausea from methadone
   ? change to fent patch, continue ocycodone
   d/w palliative care
   #NSCLC
   - not receiving chemotherapy
   - s/p palliative XRT
   # Constipation
   -continue bowel regimen
   # R Pleural effusion- likely due to significant collapse, s/p
   thoracentesis
   -Repeat cxr to eval for reaccumulation in which case will address role
   for pleurex cath
   --? role for pleurex
   # GI bleed
   - s/p epi injection of small gastric ulcer, now tolerating
   anticoagulation
   - crit  remains stable
   Remainder as per resident note
   ICU Care
   Nutrition:  TFs and PO as tolerates
when nausea better controlled
   Glycemic Control:
   Lines:
   PICC Line - [**2112-11-16**] 05:09 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: LMWH Heparin)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:  family and pt updated and all questions
   answered
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2112-11-29 07:43:00 Physician Resident Progress Note
TITLE: [**Hospital Unit Name 1**] Resident Progress Note
   Chief Complaint: NSCLC
   24 Hour Events:
   -CXR did not show significant change in size of effusions; maybe left
   effusion is very slightly bigger
   -per palliative care changed to standing oxycodone with more prn.
   standing klonopin with standing ativan.  restarted dex 4 [**Hospital1 7**] (because
   neck seemed significantly more swollen), with plan to taper very slowly
   to a low dose (but not off).
   -should f/u with oncology when she is discharged
   -factor xa level at midnight
   -changed to standing reglan tid, no further episodes emesis
   -per case management, should really try to get her to LTAC tomorrow,
   otherwise she is worried pt's insurance may refuse to pay for LTAC and
   argue that she does not meet criteria for level of nursing care
 URINE CULTURE - At [**2112-11-28**] 04:00 PM
   urine electrolytes sent
   Allergies:
   Morphine
   Unknown;
   Sulfa (Sulfonamide Antibiotics)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2112-11-28**] 08:15 AM
   Enoxaparin (Lovenox) - [**2112-11-28**] 07:54 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2112-11-29**] 07:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 37.1
C (98.7
   HR: 90 (70 - 110) bpm
   BP: 126/60(75) {80/48(56) - 172/151(157)} mmHg
   RR: 16 (7 - 28) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 51.5 kg (admission): 46.8 kg
   Height: 62 Inch
                  Total In:
                                                                    811 mL
                                                                    332 mL
   PO:
                  TF:
                                                                    321 mL
                                                                    152 mL
   IVF:
                                                                     50 mL
   Blood products:
   Total out:
                                                                    757 mL
                                                                    290 mL
   Urine:
                                                                    657 mL
                                                                    290 mL
   NG:
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                     54 mL
                                                                     42 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 21 cmH2O
   Plateau: 14 cmH2O
   Compliance: 50 cmH2O/mL
   SpO2: 98%
   ABG: ///24/
   Ve: 7.7 L/min
   Physical Examination
   Gen: NAD, sitting up in a chair on trache mask, looking alert and
   interactive, has regained significant dexterity in hands, now able to
   write
   CV: RRR with no mrg
   Pulm: decreased BS right base, rhoncherous breath sounds in bilateral
   upper lung fields
   Ext: no edema
   Labs / Radiology
   306 K/uL
   9.0 g/dL
   104 mg/dL
   0.6 mg/dL
   24 mEq/L
   4.3 mEq/L
   17 mg/dL
   98 mEq/L
   131 mEq/L
   27.3 %
   7.4 K/uL
        [image002.jpg]
                            [**2112-11-24**]  01:30 PM
                            [**2112-11-24**]  09:27 PM
                            [**2112-11-25**]  01:10 AM
                            [**2112-11-25**]  10:45 AM
                            [**2112-11-25**]  06:09 PM
                            [**2112-11-26**]  12:53 AM
                            [**2112-11-26**]  03:13 PM
                            [**2112-11-27**]  03:22 AM
                            [**2112-11-28**]  03:26 AM
                            [**2112-11-29**]  04:14 AM
   WBC
   12.6
   10.5
   11.2
   11.1
   10.1
   11.7
   7.4
   Hct
   29.0
   28.7
   23.9
   28.7
   27.8
   30.5
   29.3
   29.0
   31.4
   27.3
   Plt
   275
   239
   238
   258
   281
   341
   306
   Cr
   0.6
   0.6
   0.5
   0.6
   0.6
   Glucose
   143
   113
   91
   133
   104
   Other labs: PT / PTT / INR:14.1/28.6/1.2, ALT / AST:20/11, Alk Phos / T
   Bili:108/0.2, Amylase / Lipase:112/42, Differential-Neuts:91.6 %,
   Lymph:3.6 %, Mono:4.2 %, Eos:0.6 %, Lactic Acid:0.8 mmol/L, Albumin:3.2
   g/dL, LDH:280 IU/L, Ca++:9.1 mg/dL, Mg++:1.8 mg/dL, PO4:2.9 mg/dL
                                Heparin, LMW
                                                                      0.71
                                    U/mL
   LEVELS SHOULD BE OBTAINED 4-6 HRS AFTER LAST SUBCUTANEOUS DOSE OF
   LMWH.;THERAPEUTIC RANGES FOR VENOUS THROMBOSIS: 0.6-1.0 U/ML FOR [**Hospital1 7**]
   DOSING.
                         Length of Urine Collection
                                                                    RANDOM
                         Urea Nitrogen, Urine
                                                                       879
                                    mg/dL
                         Creatinine, Urine
                                                                        97
                                    mg/dL
                         Sodium, Urine
                                                                        40
                                    mEq/L
                         Chloride, Urine
                                                                       110
                                    mEq/L
                         OTHER URINE CHEMISTRY
                         Osmolality, Urine
                                                                       625
                                   mOsm/kg
   No new micro
   [**2112-11-28**] CXR:
   As compared to the previous examination, the bilateral pleural
   effusions have slightly increased in extent. As a consequence, the
   volume of
   the left and right hemithorax has slightly decreased. No evidence of
   focal
   parenchymal opacities suggesting pneumonia. Unchanged size of the
   cardiac
   silhouette, unchanged monitoring and support devices.
   Assessment and Plan
   55 yo female with new diagnosis of non-small cell lung carcinoma
   causing SVC syndrome and respiratory distress, transferred for further
   evaluation and treatment.  Now s/p placement of stent in right main
   bronchus and XRT x 4.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**]):  Likely was due to NSCLC,
   now s/p treatment for post-obstructive.  Pt now s/p trach and peg,
   using trache mask during the day and most of night.
   - Completed 8 day course of Ceftriaxone (to cover coag neg staph and
   enterobacter), ended [**11-24**]
   - Trach mask as tolerated
   - Have restarted steroids for SVC syndrome
   - Goal even fluid balance today
   - now on scheduled clonazepam 0.5mg TID to decrease sedation plus
   Ativan prn
 SUPERIOR VENA CAVA SYNDROME (SVC):  Secondary to lung mass and bulky
   lymphadenopathy.  Concern for recent increased neck swelling due to
   increased clot burden vs volume overload.
   - have restarted steroids (Dexamethasone 4 mg PO/NG Q12H)
   - Lovenox therapeutic
   - CXR stable with slightly increased effusions
- Per pall care note: Plan for steroids is
re-start Decadron 4 mg tid x1, then
4 mg [**Hospital1 **] x 3 days then decrease to 2 mg [**Hospital1 **] and assess response. If pt continues
 to have better controlled edema and no vomiting , try decreasing to 2 mg qd if
she has more symptoms may need to go up on dose to 2 mg tid or 4 mg [**Hospital1 **]. goal is
 smallest dose possible to keep symptoms under control and to allow of increase
in dose if symptoms reoccur
 Nausea/Vomiting/Nutrition: Vomiting yesterday with high residuals and
   again this morning without trigger (suctioning).  Have decreased tube
   feeds and continued standing reglan.  Some concern vomiting is
   intracranial vs vagal nerve problem.
   - TFs turned down for now- allow pt to take PO if she wants
   - continue sucralfate
   - have restarted steroids
   - standing reglan, zofran prn, continue anxiolytics as above
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN): Appreciate palliative care
   recs.  Have changed to standing oxycodone 30-60mg po q4h plus 30-60mg
   po q2h prn for pain.
   - continue to assess pain after discharge
   - FU palliative care recs

 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB): S/p endoscopy
   with intervention for ulcer and PEG tube placement with multiple
   biopsies
   - maintain active T&S
   - now on Lovenox for anticoagulation
   - follow daily Hct, dropped slightly but stable.  Will need daily hct
   as outpatient.
 RIJ and SVC clot: Has thrombus in SVC, PICC line in SVC continues to
   work, and will leave in place for now.
   -  Continue Lovenox as above
   #. HYPONATREMIA: Na stable at 133, had some NS repletion for low UOP
   but didn
t change Na.  Likely related to poor solute intake and
   possible SIADH.
 CANCER (MALIGNANT NEOPLASM), LUNG NSCLC:  New diagnosis, now s/p 4
   treatments of XRT since [**11-11**].  Initial metastatic workup has been
   negative with negative Abd and Brain imaging but may have positive
   lymph nodes based on OSH imaging.
   - XRT complete
   - Heme/onc following; patient to follow up regarding chemo as
   outpatient if does well
   - SW following
   - Palliative care following
   # CONSTIPATION:now with nl BMs
   - bowel regimen with senna, colace, bisacodyl, miralax
   - cdiff negative
   #.  SOCIAL ISSUES:  Patient to go to LTACH with the support of her
   family.
   - SW following, appreciate their guidance
   - Follow up case management status and placement issues
   - Have stopped nicotine patch
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2112-11-28**] 10:54 PM 20 mL/hour, can take
   some PO
   Glycemic Control:
   Lines:
   PICC Line - [**2112-11-16**] 05:09 PM
   Prophylaxis:
   DVT: Lovenox
   Stress ulcer: PPI (lansoprazole)
   VAP:
   Comments: Aggressive bowel regimen, pain control with prn morphine
   Communication:  Comments: Comments: patient, husband and daughter
   [**Name (NI) 36**] status: DNR
   Disposition: ICU for now, being screened for LTAC - [**Hospital1 189**] only that
   takes insurance but has not responded ; while bed may be ready,
   patient
s vomiting, neck swelling and pain still need to be managed
   further.  Goal 1-2 days until LTAC.

2112-11-29 13:04:00 Physician Attending Progress Note
Chief Complaint: resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:  55 F who presented with respiratory distress, diagnosed wtih NSLC
   of the R lung causing RML and RUL bronchi obstruction and SVC syndrome,
   now on and off ventilator, s/p trach/PEG.
   24 Hour Events:
 URINE CULTURE - At [**2112-11-28**] 04:00 PM
   urine electrolytes sent
   pain regimen adjusted with help of palliative care (methadone stopped)
   dexa restarted for increased neck/facial swelling and nausea
   Klonopin and prn ativan started
   emesis improved with standing reglan
   Allergies:
   Morphine
   Unknown;
   Sulfa (Sulfonamide Antibiotics)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2112-11-28**] 07:54 PM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2112-11-29**] 01:03 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 37.1
C (98.7
   HR: 93 (70 - 106) bpm
   BP: 132/66(82) {95/48(59) - 172/151(157)} mmHg
   RR: 17 (7 - 24) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 51.5 kg (admission): 46.8 kg
   Height: 62 Inch
             Total In:
                                                                    811 mL
                                                                    507 mL
   PO:
             TF:
                                                                    321 mL
                                                                    277 mL
   IVF:
                                                                     50 mL
                                                                     50 mL
   Blood products:
   Total out:
                                                                    757 mL
                                                                    370 mL
   Urine:
                                                                    657 mL
                                                                    370 mL
   NG:
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                     54 mL
                                                                    137 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 21 cmH2O
   Plateau: 14 cmH2O
   Compliance: 50 cmH2O/mL
   SpO2: 94%
   ABG: ///24/
   Ve: 7.7 L/min
   Physical Examination
   General Appearance: No acute distress, Thin, sl improvement in neck
   swelling
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: trach site clean
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: ue edema stable
   Skin:  warm
   Neurologic: Attentive, Follows simple commands,
   Labs / Radiology
   9.0 g/dL
   306 K/uL
   104 mg/dL
   0.6 mg/dL
   24 mEq/L
   4.3 mEq/L
   17 mg/dL
   98 mEq/L
   131 mEq/L
   27.3 %
   7.4 K/uL
        [image002.jpg]
                            [**2112-11-24**]  01:30 PM
                            [**2112-11-24**]  09:27 PM
                            [**2112-11-25**]  01:10 AM
                            [**2112-11-25**]  10:45 AM
                            [**2112-11-25**]  06:09 PM
                            [**2112-11-26**]  12:53 AM
                            [**2112-11-26**]  03:13 PM
                            [**2112-11-27**]  03:22 AM
                            [**2112-11-28**]  03:26 AM
                            [**2112-11-29**]  04:14 AM
   WBC
   12.6
   10.5
   11.2
   11.1
   10.1
   11.7
   7.4
   Hct
   29.0
   28.7
   23.9
   28.7
   27.8
   30.5
   29.3
   29.0
   31.4
   27.3
   Plt
   275
   239
   238
   258
   281
   341
   306
   Cr
   0.6
   0.6
   0.5
   0.6
   0.6
   Glucose
   143
   113
   91
   133
   104
   Other labs: PT / PTT / INR:14.1/28.6/1.2, ALT / AST:20/11, Alk Phos / T
   Bili:108/0.2, Amylase / Lipase:112/42, Differential-Neuts:91.6 %,
   Lymph:3.6 %, Mono:4.2 %, Eos:0.6 %, Lactic Acid:0.8 mmol/L, Albumin:3.2
   g/dL, LDH:280 IU/L, Ca++:9.1 mg/dL, Mg++:1.8 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   Ongoing issues include:
   # Respiratory Failure
   --continue TC as tolerates with ventilatory support as needed for
   comfort and at night
   # SVC syndrome-- concern for progression of clot burden/ tumor with
   limited treatment options. clot and tumor burden, no role for
   additional stenting
   - continue LMWH (indefinitely)
   - dexa with slow taper
   # Vomiting--unclear etiology, ? centrally mediated, ? med related,
   improved since yesterday
   Methadone d/c
   -continue standing reglan
   - zofran and ativan as needed
   -additional benefit possibly from dexa
   #  Pain Control-has chronic pain at baseline with high narcotic
   requirement
   -    pallaitive care input appreciated,
   -    continue oxycodone, klonopin for anxiety component
   # hyponatremia
labs most c/w with siadh
   -continue to follow na level,
   -monitor free water intake
   #NSCLC
   - not receiving chemotherapy at present, but will f/u with onc as outpt
   - s/p palliative XRT
   # Constipation
   -continue bowel regimen
   # R Pleural effusion- likely due to significant collapse, s/p
   thoracentesis
   -minimal re accumulation on repeat imaging and stable resp status
   # GI bleed
   - s/p epi injection of small gastric ulcer, now tolerating
   anticoagulation
   - hct stable
   Remainder as per resident note
   ICU Care
   Nutrition:  TFs
   Comments: getting video swallow to assess aspiration risk
   Glycemic Control:
   Lines:
   PICC Line - [**2112-11-16**] 05:09 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: LMWH Heparin)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :OK for transfer to rehab facility
   Total time spent: 40 minutes
   Patient is critically ill